2103-06-19 06:01:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   Patient is a  80 year old female with severe COPD, diabetes, lung
   cancer, morbid obesity, who presents to ICU s/p ERCP in setting of
   hypoxia and reintubation
   24 Hour Events:
 ARTERIAL LINE - START [**2103-6-18**] 04:38 PM
 BLOOD CULTURED - At [**2103-6-19**] 12:00 AM
 SPUTUM CULTURE - At [**2103-6-19**] 01:34 AM
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2103-6-18**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-19**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-19**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 72 (66 - 86) bpm
   BP: 106/60(77) {89/53(66) - 133/74(97)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,202 mL
                                                                    365 mL
   PO:
             TF:
   IVF:
                                                                  1,402 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    125 mL
   Urine:
                                                                    785 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,417 mL
                                                                    240 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 600 (600 - 600) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.35/44/96.[**Numeric Identifier 244**]//-1
   Ve: 11.9 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2103-6-18**]  06:07 PM
                             [**2103-6-18**]  09:30 PM
                             [**2103-6-18**]  11:18 PM
   TropT
   0.81
   TCO2
   24
   25
   Other labs: CK / CKMB / Troponin-T:308/15/0.81, Lactic Acid:1.4 mmol/L
   Fluid analysis / Other labs: 11pm CK: 308  MB: 15  MBI: 4.9  Trop-T:
   0.81
    3pm CK: 78  MB: 5  Trop-T: 0.16
   Imaging: CXR [**6-19**] -
   CXR [**6-18**]-
   No previous image. The endotracheal tube tip lies approximately
   4.4 cm above the carina. There is enlargement of the cardiac silhouette
   with
   prominence of interstitial markings consistent with elevated pulmonary
   venous
   pressure. Some hyperexpansion of the lungs suggests underlying chronic
   pulmonary disease. Blunting of the left costophrenic angle with some
   basilar
   opacification is consistent with pleural fluid and atelectatic change.
   Assessment and Plan
   Patient is a  80 year old female with severe COPD, diabetes, lung
   cancer, morbid obesity, who presents to ICU s/p ERCP in setting of
   hypoxia and reintubation
   .
   #. Hypoxia/Hypotension
   Differential includes myocardial infarction, aspiration in setting post
   procedure, COPD exacerbation/OSA, early sepsis given ERCP and possible
   bacteremia, pulmonary edema although less likely given chest
   radiograph. Pancreatitis post ERCP causing ARDS is also less likely
   given clinical picture. Also may have had mucus plug and component of
   atelectasis given her body habitus.
   - repeat CXR in AM
   - pan culture blood, urine, sputum
   - will cover with levo/flagyl to cover for pulmonary and biliary
   process
   - add on diff
   - TTE to assess EF and WMO
   - continue to trend cardiac enzymes
   - repeat ECG in AM
   - nebulizer treatments
   - wean down ventilator settings in hope of early extubation, will
   foloow ABG closely and wean sedation in AM to plan for RSBI, patient
   did excellent on PS trial, will rest o/n on AC and plan to switch back
   to PS at 0400 with plan to extubate in AM
   - volume challenge with normal saline for HoTN although suspect this is
   sedation/med related and less likely to be sepsis
   - hold anti-hypertensives
   - hold diuretic overnight
   .
   #. COPD
   - continue nebulizer treatments
   - hold off on steroids
   - outpatient sleep study to assess for OSA
   .
   # Leukocytosis
   Suspect [**12-30**] stress response after ERCP however will cover empirically
   with levo/flagyl overnight. Pan cultured.
   .
   #. Diabetes
   - place on SSI
   .
   #. Lung cancer
   - s/p LLL resection, did not receive any chemo or XRT, this was done in
   [**Hospital3 **]
   .
   #. FEN
   - NPO
   .
   #. Access:  PIVx2, A-line
   .
   #. PPx: SQ heparin, H2 blocker, chlorhexidine, elevate HOB
   .
   #. Code:  presumed FULL
   .
   #. Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-18**] 04:38 PM
   16 Gauge - [**2103-6-18**] 05:12 PM
   20 Gauge - [**2103-6-18**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-19 07:24:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure & MI
   Patient is a  80 year old female with severe COPD, diabetes, lung
   cancer, morbid obesity, who presents to ICU s/p ERCP in setting of
   hypoxia and reintubation
   24 Hour Events:
 ARTERIAL LINE - START [**2103-6-18**] 04:38 PM
   --> Tried on PSV for approx 1 hr last night.  patient did well.  was
   switched to A/C to rest overnight for possible extubation today.
   Sedated with propofol.
   --> check Pplateau and PIP?
   --> This morning had a bump in CE.  Started on Hep Drip.  Touched base
   with cards last night and showed EKGs and they were not too concerned.
   If she rules in they rec starting Hep gtt.  Cards plans to see her this
   morning.   Obtained repeat EKG.  Giving ASA PR.
   CE from this ams...
   CK: 569  MB: 16  MBI: 2.8  Trop-T: 0.58
   CK: 308  MB: 15  MBI: 4.9  Trop-T: 0.81
   CK: 78  MB: 5  Trop-T: 0.16
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2103-6-19**] 06:08 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Propofol - 50.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-19**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-19**] 12:00 AM
   Heparin Sodium - [**2103-6-19**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 71 (66 - 86) bpm
   BP: 112/62(81) {89/53(66) - 133/74(97)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,202 mL
                                                                    632 mL
   PO:
             TF:
   IVF:
                                                                  1,402 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    285 mL
   Urine:
                                                                    785 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,417 mL
                                                                    347 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 600 (600 - 600) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.41/41/82/25/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen: intubated and sedated, obese
   Lungs: ventilated breath sounds, CTA anteriorly
   CV: muffled heart sounds, regular rate and rhythm, no murmurs
   appreciated
   Abd: + bs, obese, nt, nd, soft
   Ext: 2 PIV and  A line in place warm and dry.
   Labs / Radiology
   237 K/uL
   11.4 g/dL
   136 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   108 mEq/L
   142 mEq/L
   32.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2103-6-18**]  06:07 PM
                             [**2103-6-18**]  09:30 PM
                             [**2103-6-18**]  11:18 PM
                             [**2103-6-19**]  05:33 AM
                             [**2103-6-19**]  05:39 AM
   WBC
   13.7
   Hct
   32.3
   Plt
   237
   Cr
   1.3
   TropT
   0.81
   0.58
   TCO2
   24
   25
   27
   Glucose
   136
   Other labs: PT / PTT / INR:15.1/101.3/1.3, CK / CKMB /
   Troponin-T:569/16/0.58, Differential-Neuts:82.8 %, Lymph:11.1 %,
   Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Ca++:7.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   CXR:  [**6-19**]
 lung volumes a little lower compared to previous.  No
   obvious infusion or infiltrate.  LLL opacification similar.
   [**6-18**] (final read) -
   No previous image. The endotracheal tube tip lies approximately
   4.4 cm above the carina. There is enlargement of the cardiac silhouette
   with
   prominence of interstitial markings consistent with elevated pulmonary
   venous
   pressure. Some hyperexpansion of the lungs suggests underlying chronic
   pulmonary disease. Blunting of the left costophrenic angle with some
   basilar
   opacification is consistent with pleural fluid and atelectatic change.
   ECG: EKG this [**6-19**]
 Hr 79, SR, LAD, no STE/STD, Q wave in v1-v3 (old),
   higher T waves in II, III, and AVF.
Culture data:
Sputum:  GRAM STAIN (Final [**2103-6-19**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
Blood cx
 pending x2
Urine cx - pending
   Assessment and Plan
   Patient is a  80 year old female with severe COPD, diabetes, lung
   cancer, morbid obesity, who presents to ICU s/p ERCP in setting of
   hypoxia and reintubation
   .
   # NSTEMI/cardiac ischemia
 cardiac enzymes are positive.  Patient
   sedated now and not currently complaining of CP.  EKG does not show ST
   changes.
   -heparin gtt
   -ASA PR/PO
   -Add lopressor 5mg IV q 6hrs daily
 convert to po when patient
   extubated
   -TTE today.
   -cards c/s
   -consider morphine and/or nitro for pain control as patient is weaned
   off sedation.
   .
   #. Hypoxia/Hypotension
 likely due to acute myocardial ischemia and
   diastolic dysfunction causing increasing pulmonary edema.  Possible
   that her epigastric pain was actually referred myocardial ischemia.
   - repeat CXR in AM
   - pan culture blood, urine, sputum
   - will d/c abx as patient is afebrile and wbc trending down and low
   suspicion of infection.
   - TTE to assess EF and WMO
   - nebulizer treatments
   - wean sedation to plan for RSBI and PSV.  Will try to optimize HR and
   BP control prior to extubation.
   - volume challenge with normal saline for HoTN although suspect this is
   sedation/med related and less likely to be sepsis
   - patient
s only anti-HTN med as outpatient is lasix 40 mg PO daily
   consider adding back lasix if patient
s BP tolerates the Beta-blocker
   as it will help with pulm edema.
   .
   #. COPD
   - continue nebulizer treatments
   - hold off on steroids
   - outpatient sleep study to assess for OSA
   .
   # Anemia
 Hct steadily declining.
   - send type & screen,
   - recheck around noon and consider transfusing.
   # Leukocytosis
 trending down
   Suspect [**12-30**] stress response after ERCP however will cover empirically
   with levo/flagyl overnight. Pan cultured.
   .
   #. Diabetes
   - place on SSI
   .
   #. Lung cancer
   - s/p LLL resection, did not receive any chemo or XRT, this was done in
   [**Hospital3 **]
   .
   #. FEN
   - NPO
   .
   #. Access:  PIVx2, A-line
   .
   #. PPx: Hep gtt, H2 blocker, chlorhexidine, elevate HOB
   .
   #. Code:  presumed FULL
   .
   #. Dispo:  ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-18**] 04:38 PM
   16 Gauge - [**2103-6-18**] 05:12 PM
   20 Gauge - [**2103-6-18**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-20 06:44:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   Approx 1 hr after extubation, patient began having respiratory distress
   c/b tachypnea, tachycardia, and hypertensive urgency to 220
s/150
   She was not hypoxic, but clinically was in acute pulmonary edema.  She
   was treated initially with lisinopril and IV lopressor without
   improvement in her BP.  Widened QRS complexes and ST segment changes
   were noted on telemetry. 12-lead EKG showed evolving ischemia. She was
   given oxygen, aspirin, morphine, additional IV lopressor, and was
   started on a nitro gtt when her BP remained markedly elevated. Nitro
   was uptitrated with gradual resolution of HTN, but the patient remained
   in resp distress and was reintubated.  Cardiology consultation was
   obtained, but ischemia was thought to be rate-related and acute
   intervention was deferred.  She was subsequently treated with heparin
   gtt, plavix, aspirin, statin, and low-dose lopressor.
   R IJ placed; R A-line placed
   1830 500 cc NS bolus for BP 88/61 HR 71
 104/77 HR 89
   0400 500 cc NS bolus for BP 98/51
 118/69
   0600 500 cc LR bolus for BP 80/42 HR 82
 102/48 HR 65
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2103-6-19**] 06:08 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Hydralazine - [**2103-6-19**] 12:00 PM
   Morphine Sulfate - [**2103-6-19**] 12:15 PM
   Famotidine (Pepcid) - [**2103-6-19**] 08:00 PM
   Metoprolol - [**2103-6-19**] 08:20 PM
   Fentanyl - [**2103-6-20**] 05:40 AM
   Midazolam (Versed) - [**2103-6-20**] 05:41 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt is sedated
   Flowsheet Data as of  [**2103-6-20**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 64 (54 - 104) bpm
   BP: 88/42(56) {80/40(-8) - 212/157(275)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 17 (8 - 17)mmHg
   Total In:
                                                                  2,445 mL
                                                                    707 mL
   PO:
   TF:
   IVF:
                                                                  2,335 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    240 mL
   Urine:
                                                                    865 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,580 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 32
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.36/43/97/24/-1
   Ve: 8.9 L/min
   PaO2 / FiO2: 162
   Physical Examination
   GEN: Intubated, sedated
   HEENT: R IJ c/d/i
   CV: RRR nl S1S2 no m/r/g
   PULM: CTAB anteriorly
   ABD: obese soft NTND +BS
   EXT: warm, dry; tr edema
   Labs / Radiology
   225 K/uL
   10.7 g/dL
   114 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   25 mg/dL
   111 mEq/L
   142 mEq/L
   30.4 %
   14.3 K/uL
        [image002.jpg]
                             [**2103-6-18**]  09:30 PM
                             [**2103-6-18**]  11:18 PM
                             [**2103-6-19**]  05:33 AM
                             [**2103-6-19**]  05:39 AM
                             [**2103-6-19**]  11:39 AM
                             [**2103-6-19**]  12:29 PM
                             [**2103-6-19**]  04:00 PM
                             [**2103-6-19**]  07:21 PM
                             [**2103-6-20**]  04:30 AM
                             [**2103-6-20**]  04:57 AM
   WBC
   13.7
   14.3
   Hct
   32.3
   33.1
   31.1
   30.4
   Plt
   237
   225
   Cr
   1.3
   1.4
   TropT
   0.81
   0.58
   0.58
   0.71
   TCO2
   25
   27
   24
   25
   Glucose
   136
   114
   Other labs: PT / PTT / INR:16.0/64.0/1.4, CK / CKMB /
   Troponin-T:772/16/0.71, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   [**6-18**] Sputum GS
 3+ GPC pairs, clusters; 1+ GNR
   [**6-18**] Blood Cx - NGTD
   [**6-19**] Urine Cx
 pending
   Assessment and Plan
   80 y/o F h/o lung CA s/p LL lobectomy, home O2-dependent a/w
   respiratory failure s/p ERCP, now with recurrent acute respiratory
   failure following trial of extubation.
   .
   #Respiratory failure
 Suspect precipitating event was abrupt removal
   of PEEP upon extubation
 pt had similar event following ERCP.  Marked
   HTN in the setting of resp distress likely produced tachycardia in an
   attempt to generate CO against an elevated afterload. Acute diastolic
   dysfunction due to tachycardia led to acute pulm edema and worsening
   resp status.  O2-requirement at b/l invokes chronic LV dysfunction
   and/or subclinical CAD. Adequate oxygenation, ventilation on current
   settings.
   -Cont. full vent support
   -Wean FiO2 to maintain PO2 > 60
   -Aim to keep volume status even today
   -TTE today eval for LV dysfunction
   -[**Month (only) 60**] benefit from rapid transition to CPAP following extubation to
   maintain positive pressure
   .
   #Demand ischemia
 Reversible ischemic changes on EKG resolved once no
   longer distressed, tachycardic, hypertensive; more c/w demand than ACS
   in the setting of presumed underlying CAD; no acute intervention
   warranted, will cont. medical therapy; goal SBP 90, goal HR 65
   -trend troponin to peak
   -heparin gtt, goal PTT 60-80
   -full-dose ASA, plavix
   -titrate lopressor to HR 65 as BP allows
   -TTE today to also eval. for WMA, stunned myocardium
   -cards aware of pt, will likely need elective cath when stable
   .
   #Hypotension
 fluid responsive; likely [**12-30**] sedation
   -IVF bolus, decr. sedation as tolerated if HoTN recurs
   -consider dopa vs. levophed for 1^st line pressor if HoTN refractory to
   IVF
   .
   #Leukocytosis
 Does not appear to be overwhelmingly infected although
   new RLL process invokes PNA vs. pneumonitis.  Also dirty U/A. Likely
   element of reactive leukocytosis.
   -Trend WBC, refrain from treating +GS sputum until culture data
   available
   -f/u Cx data
   .
   # Anemia
 Hct stable, but on systemic AC
   - follow [**Hospital1 **]
   - x-fuse to maintain Hct > 30%
   .
   #ARF
 unclear b/l, has remained 1.3-1.4; may be element of ATN in the
   setting of HoTN vs. pre-renal azotemia
   -monitor Cr
   -urine lytes pending
   .
   #COPD
 Carries the diagnosis, but unclear history; no documented PFT
   in OMR
   - atrovent, albuterol MDI
   - outpatient PFTs
   .
   #DM
   - RISS
   .
   #Sedation
   -versed, fentanyl drip
   .
   #F/E/N
   -volume goal: even
   -start TF
   -replete lytes to keep K>4, Mg>2, calc WNL
   .
   #. Access:  PIV, R IJ, R a-line
   .
   #. PPx: Hep gtt, H2 blocker, chlorhexidine, elevate HOB
   .
   #. Code:  FULL
   .
   #. Dispo:  ICU
   ICU Care
   Nutrition: Nutren Pulm + beneprotein
   Glycemic Control:  ISS
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Multi Lumen - [**2103-6-19**] 02:00 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition: ICU

2103-06-20 09:13:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   yesterday morning pt had good sbp and extubated; after extubation pt
   was complaining of woresning abdominal pain, respiratory distress, with
   inreasing hr and htn to 230 sbp. attempt to control sx with nitro gtt,
   ace, bb without success and pt had to be reintubated. in this setting
   had an ekg with widening qrs and increasing st segment. cards reviewed
   ekg; no indication for cath. changes resolved with better rate control.
   central line placed. trop increase unremarkable.
   overnight 500 cc boluses for hypotn in the setting of bolus sedation.
   otherwise did well overnight. a line placed.
 NON-INVASIVE VENTILATION - START [**2103-6-19**] 12:00 PM
 NON-INVASIVE VENTILATION - STOP [**2103-6-19**] 12:41 PM
 INVASIVE VENTILATION - START [**2103-6-19**] 12:45 PM
 MULTI LUMEN - START [**2103-6-19**] 02:00 PM
 URINE CULTURE - At [**2103-6-19**] 10:35 PM
 ARTERIAL LINE - STOP [**2103-6-20**] 12:25 AM
 ARTERIAL LINE - START [**2103-6-20**] 04:25 AM
   History obtained from Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2103-6-19**] 06:08 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Hydralazine - [**2103-6-19**] 12:00 PM
   Morphine Sulfate - [**2103-6-19**] 12:15 PM
   Famotidine (Pepcid) - [**2103-6-19**] 08:00 PM
   Metoprolol - [**2103-6-19**] 08:20 PM
   Midazolam (Versed) - [**2103-6-20**] 07:45 AM
   Fentanyl - [**2103-6-20**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Gastrointestinal: No(t) Abdominal pain, No(t) Emesis
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-6-20**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 68 (54 - 104) bpm
   BP: 112/53(72) {80/40(-8) - 212/157(275)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 13 (8 - 17)mmHg
   Total In:
                                                                  2,445 mL
                                                                  1,250 mL
   PO:
   TF:
   IVF:
                                                                  2,335 mL
                                                                  1,250 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    300 mL
   Urine:
                                                                    865 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,580 mL
                                                                    950 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 32
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.36/43/96.[**Numeric Identifier 244**]/24/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal), (Murmur: No(t) Systolic, No(t) Diastolic),
   distal heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : anterirorly and at bases, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Increased
   Labs / Radiology
   10.7 g/dL
   225 K/uL
   114 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   25 mg/dL
   111 mEq/L
   142 mEq/L
   30.4 %
   14.3 K/uL
        [image002.jpg]
                             [**2103-6-18**]  09:30 PM
                             [**2103-6-18**]  11:18 PM
                             [**2103-6-19**]  05:33 AM
                             [**2103-6-19**]  05:39 AM
                             [**2103-6-19**]  11:39 AM
                             [**2103-6-19**]  12:29 PM
                             [**2103-6-19**]  04:00 PM
                             [**2103-6-19**]  07:21 PM
                             [**2103-6-20**]  04:30 AM
                             [**2103-6-20**]  04:57 AM
   WBC
   13.7
   14.3
   Hct
   32.3
   33.1
   31.1
   30.4
   Plt
   237
   225
   Cr
   1.3
   1.4
   TropT
   0.81
   0.58
   0.58
   0.71
   TCO2
   25
   27
   24
   25
   Glucose
   136
   114
   Other labs: PT / PTT / INR:16.0/64.0/1.4, CK / CKMB /
   Troponin-T:772/16/0.71, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   81F with h/o abdominal pain, s/p elective ERCP, unremarkable but
   complicated by reintubatation with another extubation yesterday
   requiring reintubation in the setting of likely flash pulmonary edema.
   the etiology of the flash pulmonary edema remains unclear. likely
   contribution from cardial ischemia given positive troponin and ekg
   changes; unable to tolerate sudden withdrawal of positive pressure
   ventilation. waiting for TTE to elucidate the cause.
   plan:
   -medical managment of cad incling asa, heparin gtt
   -cardiology following, waiting for attending recs esp. re timing of
   cath if needed
   -no sbp today. waiting for additional cardiac work-up
   -new Right lower lobe process, infiltrate of fluid; will monitor for
   signs of infection such as fever, secretion. holding off on antibiotics
   for now
   -once cardiology plan is clarified, will need diuresis, possible
   initiation of nitro gtt prior to the next extubation attempt
   1)Respiratory Failure
patient with clear evolution of acute onset of
   pulmonary edema following extubation.  This is the second time that we
   have seen a sequence of
looking favorable for extubation
evolution of
   significant evidence of tachycardia/tachypnea/hypertension and then
   with likely elevations in LVEDP onset of acute hydrostatic pulmonary
   edema leading to hypoxemic respiratory failure.  In this setting there
   is signficant elevation of troponin and CK consistent with some
   myocardial ischemia and injury.  In addition, patient did have
   epigastic discomfort at the time raising the question of her pain being
   anginal in nature.   Although this is unlikely to represent acute
   coronary syndrome is may well represent significant fixed obstruction
   with signifiant obstruction to flow contributing to recurrent hypoxemic
   respiratory failure.
   -Currently on B-Blocker/Heparin/TNG with goal to diurese
   -Cardiology to consider timing of intervention based on this clinical
   scenario and overall clinical picture
   -Will maintain in A/C and move to wean to PSV when possible.
   -Will not move to SBT in the setting of active ishcemia and plan to
   maintain full support for minimum of 48 hours
   2)Pulmonary Infiltrate
Patient with repeated intubation and although no
   significant aspiration seen at the repeat intubation
aspiration is
   certainly a risk.  She does have a single GPC found in sputum culture.
   Her CXR shows evidence of new right lower lobe opacity with suggestion
   of small effusion.
   -Would favor antibiotics to start in the setting of new infiltrate,
   increased WBC count  should evolution of significant fever or sputum
   production be seen.
   -Will repeat CXR in AM
   ICU Care
   Nutrition:
   Comments: start tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Multi Lumen - [**2103-6-19**] 02:00 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75
   Patient is critically ill

2103-06-21 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2103-6-20**] 09:36 AM--Preserved EF
   Right LL opacit Rx's as possible noscomial pneumonia
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2103-6-19**] 06:08 AM
   Vancomycin - [**2103-6-20**] 03:00 PM
   Cefipime - [**2103-6-20**] 04:54 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,500 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2103-6-20**] 02:25 PM
   Fentanyl - [**2103-6-20**] 02:25 PM
   Famotidine (Pepcid) - [**2103-6-21**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-21**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 56 (55 - 70) bpm
   BP: 92/43(59) {92/43(59) - 131/76(92)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 7 (6 - 14)mmHg
   Total In:
                                                                  3,351 mL
                                                                    379 mL
   PO:
   TF:
                                                                    118 mL
   IVF:
                                                                  3,183 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    315 mL
   Urine:
                                                                    750 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,601 mL
                                                                     64 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.36/46/98.[**Numeric Identifier 248**]/24/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : rare and dependent)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   219 K/uL
   120 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.3 mEq/L
   25 mg/dL
   113 mEq/L
   144 mEq/L
   28.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2103-6-19**]  05:39 AM
                             [**2103-6-19**]  11:39 AM
                             [**2103-6-19**]  12:29 PM
                             [**2103-6-19**]  04:00 PM
                             [**2103-6-19**]  07:21 PM
                             [**2103-6-20**]  04:30 AM
                             [**2103-6-20**]  04:57 AM
                             [**2103-6-20**]  10:40 AM
                             [**2103-6-20**]  12:45 PM
                             [**2103-6-21**]  02:23 AM
   WBC
   14.3
   12.2
   Hct
   33.1
   31.1
   30.4
   31
   30.1
   28.9
   Plt
   225
   219
   Cr
   1.4
   1.3
   1.2
   TropT
   0.58
   0.71
   0.50
   0.34
   0.27
   TCO2
   27
   24
   25
   27
   Glucose
   114
   95
   120
   Other labs: PT / PTT / INR:14.9/49.1/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR [**2103-6-21**]-
   Improved RLL infiltrate which occured quite quickly which most likely
   represents atelectasis or transient pneumonitis.
   Tubes and lines in good position.
   Microbiology: Sputum--GPC's x2
   Blood cultures with NGTD
   Assessment and Plan
   80 yo female with acute respiratory failure in the setting of recent
   evaluate for epigastic pain which did not reveal a focal source in the
   biliary tree but has now had recurrent respiratory failure with failing
   secondary to acute onset of pulmonary edema.  The concern is for
   significant coronary artery obstruction driving injury and ishemia
   leading to increase in LVEDP driving recurrent pulmonary edema.  She
   did have RLL infiltrate which is likely transient aspiration
   pneumonitis and collapse given rapid response by radiograph rather than
   new pneumonia.  The concern in the setting of fever and risk for
   significant consequences of untreated pneumonia has led to decision to
   Rx. With ABX noted.
   Myocardial Infarction-Small but likely significant troponin and CK
   leak.  Pending catheterization will
   Rx with
   Plavix
   Lipitor
   ASA
   Lopressor
   Respiratory Failure-Reasonable response to support at this time and
   will
   Vanco/Cefepime for ABX
   Continue with A/C support
   Will need optimal medical management peri-extubation if obstruction
   requiring intervention not seen and would include TNG in addition to
   B-Blocker at a minimum.
   Likely able to wean O2 as possible
   ICU Care
   Nutrition: TF
s held
   Glycemic Control:
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Multi Lumen - [**2103-6-19**] 02:00 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Prophylaxis:
   DVT:Heparin IV
   Stress ulcer: PPI
   VAP: In place prevention
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
to CCU today for catheterization.
   Total time spent: 45

2103-06-22 07:11:00 Physician Resident Progress Note
Chief Complaint: Hypoxic resp failure
   24 Hour Events:
   Diagnostic cardiac cath - 1. Coronary arteries are angiographically
   normal.
   2. Biventricular diastolic dysfunction.
   3. Moderate pulmonary arterial hypertension.
   Lasix gtt started @ 1900
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-20**] 03:00 PM
   Cefipime - [**2103-6-21**] 05:48 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-21**] 07:15 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt is sedated
   Flowsheet Data as of  [**2103-6-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 60 (54 - 69) bpm
   BP: 118/50(71) {92/43(59) - 155/94(114)} mmHg
   RR: 16 (13 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 15 (6 - 15)mmHg
   Total In:
                                                                  1,272 mL
                                                                    221 mL
   PO:
   TF:
                                                                    233 mL
   IVF:
                                                                  1,039 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                  1,900 mL
   Urine:
                                                                  1,230 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     42 mL
                                                                 -1,679 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 25,794
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.37/45/186/27/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 372
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   9.9 g/dL
   108 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.1 mEq/L
   27 mg/dL
   111 mEq/L
   146 mEq/L
   29.5 %
   12.2 K/uL
        [image002.jpg]
                             [**2103-6-19**]  12:29 PM
                             [**2103-6-19**]  04:00 PM
                             [**2103-6-19**]  07:21 PM
                             [**2103-6-20**]  04:30 AM
                             [**2103-6-20**]  04:57 AM
                             [**2103-6-20**]  10:40 AM
                             [**2103-6-20**]  12:45 PM
                             [**2103-6-21**]  02:23 AM
                             [**2103-6-21**]  12:43 PM
                             [**2103-6-22**]  04:46 AM
   WBC
   14.3
   12.2
   12.2
   Hct
   33.1
   31.1
   30.4
   31
   30.1
   28.9
   35
   29.5
   Plt
   [**Telephone/Fax (3) 3776**]
   Cr
   1.4
   1.3
   1.2
   1.3
   TropT
   0.58
   0.71
   0.50
   0.34
   0.27
   TCO2
   25
   27
   27
   Glucose
   114
   95
   120
   93
   108
   Other labs: PT / PTT / INR:14.6/21.3/1.2, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology: [**6-18**] Sputum - MRSA
   [**6-20**] blood Cx (prelim)- GPC clusters
   Assessment and Plan
   80 y/o F h/o lung CA s/p LL lobectomy, home O2-dependent a/w
   respiratory failure s/p ERCP, now with recurrent respiratory failure in
   the setting of acute pulmonary edema following trial of extubation.
   .
   #Respiratory failure
 Suspect precipitating event was abrupt removal
   of PEEP upon extubation
 pt had similar event following ERCP.  Marked
   HTN in the setting of resp distress likely produced tachycardia in an
   attempt to generate CO against an elevated afterload. Acute diastolic
   dysfunction due to tachycardia led to acute pulm edema and worsening
   resp status.  O2-requirement at b/l invokes chronic LV dysfunction
   and/or subclinical CAD. Adequate oxygenation, ventilation on current
   settings. Improved RLL opacity on CXR c/w pneumonitis, does have coag +
   staph in sputum GS from [**6-20**]
   -Cont. full vent support
   -Wean FiO2 to maintain PO2 > 60
   -Cont. vanco/cefepime for broad cov
g prior to cath
   -Aim to keep volume status even today
   -[**Month (only) 60**] benefit from rapid transition to CPAP following extubation to
   maintain positive pressure
   .
   #Demand ischemia
 Reversible ischemic changes on EKG resolved once no
   longer distressed, tachycardic, hypertensive; more c/w demand than ACS
   in the setting of presumed underlying CAD; no acute intervention
   warranted, will cont. medical therapy; goal SBP 90, goal HR 65; TTE
   showed preserved bivent fxn but incr. PCWP and mild AS, could not
   exclude WMA; trop peaked 0.71 on [**6-19**]
   -heparin gtt, goal PTT 60-80
   -full-dose ASA, plavix
   -titrate lopressor to HR 65 as BP allows
   -diagnostic cath today, may require intervention; plan per CCU team
   afterwards
   .
   .
   # Anemia
 Hct stable, but on systemic AC
   - follow [**Hospital1 **]
   - x-fuse to maintain Hct > 30%
   .
   #ARF
 unclear b/l, has improved to 1.2; UNa 15 c/w pre-renal azotemia
   but may be element of ATN in the setting of HoTN
   -IVF
   -monitor Cr
   .
   #COPD
 Carries the diagnosis, but unclear history; no documented PFT
   in OMR
   - atrovent, albuterol MDI
   - outpatient PFTs
   .
   #DM
   - RISS
   .
   #Sedation
 pt comfortable, pain-free
   -versed, fentanyl gtt
   .
   #F/E/N
   -volume goal: even
   -TF
   -replete lytes to keep K>4, Mg>2, calc WNL
   .
   #. Access:  PIV, R IJ, R a-line
   .
   #. PPx: Hep gtt, H2 blocker, chlorhexidine, elevate HOB
   .
   #. Code:  FULL
   .
   #. Dispo:  CCU before/after cardiac cath
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Multi Lumen - [**2103-6-19**] 02:00 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2103-06-22 10:46:00 Physician Attending Progress Note
Chief Complaint: resp failure, two failed extubations
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F with copd, recent abd pain, admitted for elective ERCP, intubated
   before procedures, and now failed 2 extubations likely from acute flash
   pulmonary edema:
   24 Hour Events:
   -had cath that showed clean coronaries; returned to MICU
   -bcx positive today
   -mrsa in sputum
   -low-grade fevers
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2103-6-21**] 05:48 PM
   Vancomycin - [**2103-6-22**] 08:38 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-22**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2103-6-22**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 65 (54 - 69) bpm
   BP: 143/60(88) {97/46(62) - 155/94(114)} mmHg
   RR: 15 (13 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 15 (11 - 15)mmHg
   Total In:
                                                                  1,272 mL
                                                                    546 mL
   PO:
   TF:
                                                                    233 mL
   IVF:
                                                                  1,039 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                  2,040 mL
   Urine:
                                                                  1,230 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     42 mL
                                                                 -1,494 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.37/45/186/27/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 372
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal), (Murmur: Systolic, No(t) Diastolic), RUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   239 K/uL
   108 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.1 mEq/L
   27 mg/dL
   111 mEq/L
   146 mEq/L
   29.5 %
   12.2 K/uL
        [image002.jpg]
                             [**2103-6-19**]  12:29 PM
                             [**2103-6-19**]  04:00 PM
                             [**2103-6-19**]  07:21 PM
                             [**2103-6-20**]  04:30 AM
                             [**2103-6-20**]  04:57 AM
                             [**2103-6-20**]  10:40 AM
                             [**2103-6-20**]  12:45 PM
                             [**2103-6-21**]  02:23 AM
                             [**2103-6-21**]  12:43 PM
                             [**2103-6-22**]  04:46 AM
   WBC
   14.3
   12.2
   12.2
   Hct
   33.1
   31.1
   30.4
   31
   30.1
   28.9
   35
   29.5
   Plt
   [**Telephone/Fax (3) 3776**]
   Cr
   1.4
   1.3
   1.2
   1.3
   TropT
   0.58
   0.71
   0.50
   0.34
   0.27
   TCO2
   25
   27
   27
   Glucose
   114
   95
   120
   93
   108
   Other labs: PT / PTT / INR:14.6/21.3/1.2, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   80F with copd, abd pain, admitted for elective ERCP, intubated before
   procedures, and now failed 2 extubations likely from acute flash
   pulmonary edema for unclear reasons, likely component of ischemia with
   small vessel disease and stiff ventricles. components of anxiety
   peri-extubation as well.
   RESP FAILURE
   -repeat xray today
   -continue to diurese aggressively
   -will need nitro gtt peri extubation
   MRSA PNA / BACTEREMIA:
   -cont vancomycin; check level since dosing seems low
   -stop cefapime
   -change TLC
   -repeat TTE given murmur; may need TEE
   -follow-up speciation and suscept
   -resent blood cultures and tip for culture
   CAD: minimal large vessel disease on cath
   -continue statin and bb
   -can stop asa, plavix
   DISPO ISSUES:
   -pt to remain in the ICU
   I was physically present with the resident and fellow team for
   discussion of the patients course on this day and would agree with the
   note in full.  I would add
Patient with no evidence of stenosis of
   epicardial vessels based on cardiac catheterization.  She now has some
   persistent fevers in the setting of pulmonary infiltrate and CVL.  Her
   goals for successful extubation will likely depend on adequate
   stabilization of blood pressure and heart rate following extubation.
   For today
   -Will move to PSV wean today
   -Continue with diuresis
   -Will change CVL given fevers and concern for blood stream infection
   -Lisinopril for afterload reduction
   -Consider extubation on IV nitrate to control hemodynamics post
   extubation
   -Hope to diurese effectively
   -Suggest extubation to BIPAP when ready to trial.
   ICU Care
   Nutrition:
   Restart tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Multi Lumen - [**2103-6-19**] 02:00 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2103-06-23 07:13:00 Physician Resident Progress Note
Chief Complaint: vent dependence s/p ERCP
   acute respiratory failure in setting of flash pulmonary edema
   demand ischemia s/p heart catheterization [**2103-6-21**]
   24 Hour Events:
   Change CVL---d/c R IJ; place L IJ
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2103-6-21**] 05:48 PM
   Vancomycin - [**2103-6-22**] 08:38 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-22**] 08:00 PM
   Midazolam (Versed) - [**2103-6-22**] 10:30 PM
   Fentanyl - [**2103-6-23**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 60 (57 - 78) bpm
   BP: 137/53(80) {108/45(64) - 176/78(113)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  1,393 mL
                                                                    469 mL
   PO:
   TF:
                                                                    377 mL
                                                                    167 mL
   IVF:
                                                                    946 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  5,370 mL
                                                                  2,380 mL
   Urine:
                                                                  5,370 mL
                                                                  2,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,977 mL
                                                                 -1,911 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (540 - 550) mL
   Vt (Spontaneous): 355 (355 - 355) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.43/47/91.[**Numeric Identifier 96**]/31/5
   Ve: 12.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: NAD, sedated
   CV: distant heart sounds, RRR, no M/R/G
   Lung: on ventilator; decreased bs at lateral bases, no wheezing or
   stridor, posterior exam deferred
   Abd: obese, +bs, soft, ntnd
   Ext: diffuse mild edema, warm, dry, 1+ pedal pulses
   Labs / Radiology
   284 K/uL
   10.4 g/dL
   152 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   28 mg/dL
   107 mEq/L
   145 mEq/L
   30.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2103-6-20**]  04:57 AM
                             [**2103-6-20**]  10:40 AM
                             [**2103-6-20**]  12:45 PM
                             [**2103-6-21**]  02:23 AM
                             [**2103-6-21**]  12:43 PM
                             [**2103-6-22**]  04:46 AM
                             [**2103-6-22**]  03:52 PM
                             [**2103-6-22**]  10:08 PM
                             [**2103-6-22**]  10:31 PM
                             [**2103-6-23**]  04:17 AM
   WBC
   12.2
   12.2
   13.4
   Hct
   31
   30.1
   28.9
   35
   29.5
   30.1
   Plt
   [**Telephone/Fax (3) 3791**]
   Cr
   1.3
   1.2
   1.3
   1.3
   1.3
   1.3
   TropT
   0.34
   0.27
   TCO2
   25
   27
   27
   32
   Glucose
   95
   120
   93
   108
   118
   144
   152
   Other labs: PT / PTT / INR:14.7/23.6/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   [**2103-6-22**] cath tip cx: pending
   [**2103-6-21**] blood cx: pending
   [**2103-6-20**] blood cx:  coag neg staph
   [**2103-6-20**] sputum cx: S. aureus
   [**2103-6-22**] CXR: L IJ in place; pulmonary effusions L>R; improvement in
   pulmonary vascular congestion
   [**2103-6-21**] heart cath:  coronary arteries angiographically normal; bivent
   diastoloic dysfuction, moderate pulmonary arterial hypertension
   Assessment and Plan
   80 y/o F h/o lung CA s/p LL lobectomy, home O2-dependent a/w
   respiratory failure following extubation after ERCP, now with recurrent
   respiratory failure [**12-30**] acute pulmonary edema following a second trial
   of extubation.
   #Respiratory failure
 Suspect precipitating event was abrupt removal
   of PEEP upon extubation, similar to the events subsequent to ERCP.
   Marked HTN in the setting of resp distress likely produced tachycardia
   in an attempt to generate CO against an elevated afterload. Acute
   diastolic dysfunction due to tachycardia led to acute pulm edema and
   worsening resp status.  O2-requirement at b/l invokes chronic LV
   dysfunction and/or subclinical CAD. Adequate oxygenation, ventilation
   on current settings. Improved RLL opacity on CXR c/w pneumonitis, does
   have coag + staph in sputum GS from [**6-20**]
   -Wean FiO2 to 40% (maintain PO2 >60), incr. RR to 18 to optimize
   oxygenation/ventilation respectively
   - Switch sedation from versed/fentanyl to propofol
   -cont Lasix gtt to achieve 3-4 L negative today to optimize extubation
   tomorrow; follow electrolytes [**Hospital1 **]
   -continue low-dose ACEi to improve afterload, diuresis; will consider
   increasing lisinopril from 10mg to 20mg based on blood pressure after
   the sedation is switched to propofol.
   -Will start nitroprusside gtt titrated to SBP 90-100 and lopressor
   titrated to HR 60-65 to optimize hemodynamics peri-extubation
   -[**Month (only) 60**] benefit from rapid transition to CPAP following extubation to
   maintain positive pressure
   .
   #GPC bacteremia (1 of 2 bottles---likely contamination)
   -Cont. vanco (day [**4-11**]); d/c cefepime [**2103-6-22**]
   -central line changed [**2103-6-22**]
   -MRSA precautions
   #Demand ischemia
 No proximal coronary stenoses but bivent diastolic
   dysfunction on cath; may have distal, small-vessel disease; no active
   ischemia, trop peaked [**6-19**]; heparin gtt off after 48 hrs
   -ASA 81, statin
   -titrate lopressor to HR 65 as BP allows
   -lisinopril, lopressor as above
   # Anemia
 Hct stable
   - follow daily
   - x-fuse to maintain Hct > 21%
   #ARF
 unclear b/l, stable ~1.3; UNa 15 c/w pre-renal azotemia but may
   be element of ATN in the setting of HoTN
   -monitor Cr while diuresing
   #COPD
 Carries the diagnosis, but unclear history; no documented PFT
   in OMR
   - atrovent, albuterol MDI
   - outpatient PFTs
   #DM
   - RISS
   #Sedation
 pt comfortable, pain-free
   -switch from fentanyl/versed to propofol to maintain comfort
   #F/E/N
   -volume goal: 3-4L neg
   -TF continue for now; will hold after midnight for anticipated
   extubation tomorrow
   -replete lytes to keep K>4, Mg>2, calc WNL
   #. Access:  PIV, R a-line, L IJ
   #. PPx: SQH, H2 blocker, chlorhexidine, elevate HOB
   #. Code:  FULL
   #. Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-23 15:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2103-6-22**] 03:35 PM
 MULTI LUMEN - STOP [**2103-6-22**] 04:38 PM
   Right IJ central line replaced with new left IJ central line.
   Remains intubated, mechanically ventilated.  Aggitated when sedation
   reduced.  (Tolerating bolus sedation, but experiencing marked swings in
   level of consciousness, accompanied by hypertension, tachycardia and
   aggitation).
   Tolerating Lasix infusion @ 12 mg/hr.  Good net diuresis.
   Blood culture demonstrate +GPC
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT intubation
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2103-6-21**] 05:48 PM
   Vancomycin - [**2103-6-23**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2103-6-22**] 10:30 PM
   Fentanyl - [**2103-6-23**] 07:50 AM
   Famotidine (Pepcid) - [**2103-6-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea, hypertension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-6-23**] 03:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 58 (55 - 78) bpm
   BP: 113/42(62) {86/35(48) - 176/78(113)} mmHg
   RR: 18 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 5 (0 - 8)mmHg
   Total In:
                                                                  1,393 mL
                                                                  1,102 mL
   PO:
   TF:
                                                                    377 mL
                                                                    305 mL
   IVF:
                                                                    946 mL
                                                                    796 mL
   Blood products:
   Total out:
                                                                  5,370 mL
                                                                  4,280 mL
   Urine:
                                                                  5,370 mL
                                                                  4,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,977 mL
                                                                 -3,178 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 537 (355 - 555) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.43/47/91.[**Numeric Identifier 96**]/32/5
   Ve: 8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   284 K/uL
   126 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.4 mEq/L
   27 mg/dL
   105 mEq/L
   146 mEq/L
   30.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2103-6-20**]  10:40 AM
                             [**2103-6-20**]  12:45 PM
                             [**2103-6-21**]  02:23 AM
                             [**2103-6-21**]  12:43 PM
                             [**2103-6-22**]  04:46 AM
                             [**2103-6-22**]  03:52 PM
                             [**2103-6-22**]  10:08 PM
                             [**2103-6-22**]  10:31 PM
                             [**2103-6-23**]  04:17 AM
                             [**2103-6-23**]  01:34 PM
   WBC
   12.2
   12.2
   13.4
   Hct
   31
   30.1
   28.9
   35
   29.5
   30.1
   Plt
   [**Telephone/Fax (3) 3791**]
   Cr
   1.3
   1.2
   1.3
   1.3
   1.3
   1.3
   1.2
   TropT
   0.34
   0.27
   TCO2
   27
   27
   32
   Glucose
   95
   120
   93
   108
   118
   144
   152
   126
   Other labs: PT / PTT / INR:14.7/23.6/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Sepsis, respiratory failure (recurrent pulmonary edema)
   RESPIRATORY FAILURE -- Good progress on ventilator.  Failed extubation
   x2 --> attributed to flash pulmonary edema.  Plan to continue net
   diuresis (and possible afterload reduction).  Work towards SBT and
   extubation trial following adequate diuresis and BP control.
   HYPERTENSION -- underlying medical condition, exacerbated by anxiety
   (intubation), and contributing to develpment of pulmonary edema.
   [**Hospital 3795**] medical management.
   PULMONARY EDEMA -- attributed to diastolic dysfunction (hypertension).
   Control hypertension, afterload reduction, net diuresis.
   BACTEREMIA -- staph coag negative; likely line-related infection.
   Central line resighted.  Continue antimicrobials.
   AGGITATION -- add propofol to Fentanyl
   SEPSIS -- s/p ERCP.  Good response to current regimen.
   FLUIDS -- desire net negative fluid balance.
   h/o lung CA -- s/p LLL lung resection, remote.  Loss of lung parenchyma
   possibly contributing to inability to successfully extubate.
   NUTRITION -- TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2103-6-23**] 12:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2103-6-18**] 05:12 PM
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2103-06-24 07:27:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Unprovoked episode of respiratory distress on vent yesterday with noted
   breath stacking that did not respond to suction but resolved with
   increase of PEEP to 10.
   Cont diuresis on lasix gtt.  Episode of hypotension with CVP of zero
   after 5 L were diuresed.  Pt given 500cc bolus and responded
   appropriately.
   Repleted Mg+ and K+
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2103-6-21**] 05:48 PM
   Vancomycin - [**2103-6-23**] 08:00 AM
   Infusions:
   Propofol - 22 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2103-6-23**] 07:50 AM
   Famotidine (Pepcid) - [**2103-6-23**] 07:46 PM
   Heparin Sodium (Prophylaxis) - [**2103-6-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 68 (55 - 84) bpm
   BP: 170/87(119) {80/33(46) - 171/87(119)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 0 (0 - 8)mmHg
   Total In:
                                                                  2,445 mL
                                                                  1,426 mL
   PO:
   TF:
                                                                    670 mL
                                                                     79 mL
   IVF:
                                                                  1,715 mL
                                                                  1,307 mL
   Blood products:
   Total out:
                                                                  7,150 mL
                                                                  1,360 mL
   Urine:
                                                                  7,150 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,705 mL
                                                                     66 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (446 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.44/48/128/34/7
   Ve: 11.2 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Gen: Sedated, continuous leg movement
   CV: RRR, no M/R/G
   Lung:  nonlabored breathing on vent, posterior exam deferred, no
   wheezing, no rhonchi
   Abd: decreased bs, obese, soft, ntnd
   Ext: 1+ edema UE> LE, nonpalpable pedal pulses, pneumoboots in place,
   warm dry
   Labs / Radiology
   248 K/uL
   9.9 g/dL
   122 mg/dL
   1.3 mg/dL
   34 mEq/L
   5.2 mEq/L
   31 mg/dL
   106 mEq/L
   146 mEq/L
   28.2 %
   11.8 K/uL
        [image002.jpg]
                             [**2103-6-21**]  12:43 PM
                             [**2103-6-22**]  04:46 AM
                             [**2103-6-22**]  03:52 PM
                             [**2103-6-22**]  10:08 PM
                             [**2103-6-22**]  10:31 PM
                             [**2103-6-23**]  04:17 AM
                             [**2103-6-23**]  01:34 PM
                             [**2103-6-23**]  08:50 PM
                             [**2103-6-24**]  04:12 AM
                             [**2103-6-24**]  04:39 AM
   WBC
   12.2
   13.4
   11.8
   Hct
   35
   29.5
   30.1
   28.2
   Plt
   [**Telephone/Fax (3) 3797**]
   Cr
   1.3
   1.3
   1.3
   1.3
   1.2
   1.2
   1.3
   TCO2
   27
   32
   34
   Glucose
   93
   108
   118
   144
   152
   126
   124
   122
   Other labs: PT / PTT / INR:14.7/23.6/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   [**2103-6-22**] cath tip cx: pending
   [**2103-6-21**] blood cx: pending
   [**2103-6-20**] blood cx:  coag neg staph
   [**2103-6-20**] sputum cx: S. aureus
   [**2103-6-22**] CXR: L IJ in place; pulmonary effusions L>R; improvement in
   pulmonary vascular congestion
   [**2103-6-21**] heart cath:  coronary arteries angiographically normal; bivent
   diastoloic dysfuction, moderate pulmonary arterial hypertension
   Assessment and Plan
   80 y/o F h/o lung CA s/p LL lobectomy, home O2-dependent a/w
   respiratory failure following extubation after ERCP, now with recurrent
   respiratory failure [**12-30**] acute pulmonary edema following a second trial
   of extubation.
   #Respiratory failure
 Suspect precipitating event was abrupt removal
   of PEEP upon extubation, similar to the events subsequent to ERCP.
   Marked HTN in the setting of resp distress likely produced tachycardia
   in an attempt to generate CO against an elevated afterload. Acute
   diastolic dysfunction due to tachycardia led to acute pulm edema and
   worsening resp status.  O2-requirement at b/l invokes chronic LV
   dysfunction and/or subclinical CAD. Adequate oxygenation, ventilation
   on current settings. Improved RLL opacity on CXR c/w pneumonitis, does
   have coag + staph in sputum GS from [**6-20**]
   - Continue propofol sedation.
   - Continue increased PEEP setting (10) on PSV to help minimize
   afterload; consider decreasing PEEP with increased diuresis and
   increased ACEi.
   -cont Lasix gtt to achieve 3-4 L negative today to optimize extubation
   tomorrow; follow electrolytes [**Hospital1 **]
   -continue low-dose ACEi to improve afterload, diuresis; will switch
   from lisinopril to captopril for ease of titration.   Start at
   captopril 12.5 po tid and increase as tolerated.
   -Will start nitroprusside gtt titrated to SBP 90-100 and lopressor
   titrated to HR 60-65 to optimize hemodynamics peri-extubation
   -[**Month (only) 60**] benefit from rapid transition to CPAP following extubation to
   maintain positive pressure
   #GPC bacteremia (1 of 2 bottles---likely contamination)
   -Cont. vanco (day [**5-12**]); d/c cefepime [**2103-6-22**]
   -central line changed [**2103-6-22**]
   -MRSA precautions
   #Demand ischemia
 No proximal coronary stenoses but bivent diastolic
   dysfunction on cath; may have distal, small-vessel disease; no active
   ischemia, trop peaked [**6-19**]; heparin gtt off after 48 hrs
   -ASA 81, statin
   -titrate lopressor to HR 65 as BP allows
   -captopril, lopressor as above
   # Anemia
 Hct stable
   - follow daily
   - x-fuse to maintain Hct > 21%
   #ARF
 unclear b/l, stable ~1.3; UNa 15 c/w pre-renal azotemia but may
   be element of ATN in the setting of HoTN
   -monitor Cr while diuresing
   #COPD
 Carries the diagnosis, but unclear history; no documented PFT
   in OMR
   - atrovent, albuterol MDI
   - outpatient PFTs
   #DM
   - RISS
   #Sedation
 pt comfortable, pain-free
   -continue propofol; will restart pts home meds of Celexa and neurontin
   #F/E/N
   - restart tube feeds; consider holding TF after midnight if extubation
   seems favorable.
   -volume goal: 3-4L neg
   -replete lytes to keep K>4, Mg>2, calc WNL
   #. Access:  PIV, R a-line, L IJ
   #. PPx: SQH, H2 blocker, chlorhexidine, elevate HOB
   #. Code:  FULL
   #. Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-24 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pulmonary edema
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating Propofol.
   Remains on lasix drip, with good clinical response.
   Experienced hypotension last PM, CVP= 0, and net fluid balance of -5000
   ml --> hypotension resolved with iv fluid bolus.
   Intermittent aggitation.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2103-6-21**] 05:48 PM
   Vancomycin - [**2103-6-24**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Propofol - 22 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-6-24**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 67 (55 - 84) bpm
   BP: 104/50(71) {80/33(46) - 171/87(119)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 0 (0 - 6)mmHg
   Total In:
                                                                  2,445 mL
                                                                  1,875 mL
   PO:
   TF:
                                                                    670 mL
                                                                    153 mL
   IVF:
                                                                  1,715 mL
                                                                  1,682 mL
   Blood products:
   Total out:
                                                                  7,150 mL
                                                                  1,960 mL
   Urine:
                                                                  7,150 mL
                                                                  1,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,705 mL
                                                                    -85 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (446 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.44/48/128/34/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   248 K/uL
   122 mg/dL
   1.3 mg/dL
   34 mEq/L
   5.2 mEq/L
   31 mg/dL
   106 mEq/L
   146 mEq/L
   28.2 %
   11.8 K/uL
        [image002.jpg]
                             [**2103-6-21**]  12:43 PM
                             [**2103-6-22**]  04:46 AM
                             [**2103-6-22**]  03:52 PM
                             [**2103-6-22**]  10:08 PM
                             [**2103-6-22**]  10:31 PM
                             [**2103-6-23**]  04:17 AM
                             [**2103-6-23**]  01:34 PM
                             [**2103-6-23**]  08:50 PM
                             [**2103-6-24**]  04:12 AM
                             [**2103-6-24**]  04:39 AM
   WBC
   12.2
   13.4
   11.8
   Hct
   35
   29.5
   30.1
   28.2
   Plt
   [**Telephone/Fax (3) 3797**]
   Cr
   1.3
   1.3
   1.3
   1.3
   1.2
   1.2
   1.3
   TCO2
   27
   32
   34
   Glucose
   93
   108
   118
   144
   152
   126
   124
   122
   Other labs: PT / PTT / INR:14.7/23.6/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory Failure -- multifactorial.  Underlying COPD (advanced),
   pulmonary edema (diastolic dysfunction).  Hope to work towards another
   SBT (failed extubation x2), and extubation trial if able to remove
   intravascular volume.  [**Month (only) 60**] require improved BP control (i.e. ntg or
   nipride).  Condider tracheostomy (discussed with family)
   Fluids -- net volume overloaded.  Continue net diuresis to dry weight.
   Restless Legs Syndrome -- resume pharmacological treatment.
   HTN -- optimize BP control.  Change lisinopril to captopril (shorter
   acting)
   Renal Function -- preserved creatitine.  Monitor urine output, BUN,
   creatitine.
   Nutritional support -- TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2103-6-24**] 08:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   In person discussion and telephone conversation with daughters (HCP).
   Clearly state that patient would NOT want to proceed to tracheotomy
   tube (patient indicated this clearly in prior discussions with family
   members).  Severe underlying COPD.  Plans will continue as outlined,
   with hope for optimizing medical status to allow safe extubation
   trial.  However, if despite optimized medical condition and extubation,
   in the event of recurrent respiratory distress, NO reintubation would
   be desired, and NO tracheotomy tube.  Answered all questions.  Will
   proceed as outlined in above notes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 619**], MD
   on:[**2103-6-24**] 14:22 ------

2103-06-25 08:03:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   Pt became hypotensive to SBP 80s overnight, was given boluses 750 cc x
   1, lasix gtt was d/c'd, propofol titrated off, and captopril was
   decreased. Pt initially was non fluid responsive, noted to have marked
   decrease in u/o in the setting of hypotension. Subsequently pt was
   bloused another 500ccs with appropriate increase in u/o and BP.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-24**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-24**] 07:35 PM
   Heparin Sodium (Prophylaxis) - [**2103-6-25**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-25**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 53 (51 - 70) bpm
   BP: 85/31(46) {85/30(46) - 168/86(110)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 10 (3 - 10)mmHg
   Total In:
                                                                  2,909 mL
                                                                  1,473 mL
   PO:
   TF:
                                                                    642 mL
   IVF:
                                                                  2,167 mL
                                                                  1,353 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                    270 mL
   Urine:
                                                                  4,760 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,851 mL
                                                                  1,203 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (182 - 539) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.42/60/115/35/12
   Ve: 9.4 L/min
   PaO2 / FiO2: 287
   Physical Examination:
   Gen: intubated, obtunded, [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 3812**] about briskly
   HEENT: HEENT, PERRL, dry MM
   Heart: RRR, no murmurs
   Lungs: nonlabored breathing on vent, coarse upper airway sounds, no
   wheezes or rhonchi anteriorly
   Abd: obese, soft, no grimaces upon deep palpation
   Ext: trace edema in hands and feet.
   Labs / Radiology
   268 K/uL
   9.6 g/dL
   109 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   29 mg/dL
   105 mEq/L
   148 mEq/L
   27.8 %
   12.3 K/uL
        [image002.jpg]
                             [**2103-6-22**]  10:08 PM
                             [**2103-6-22**]  10:31 PM
                             [**2103-6-23**]  04:17 AM
                             [**2103-6-23**]  01:34 PM
                             [**2103-6-23**]  08:50 PM
                             [**2103-6-24**]  04:12 AM
                             [**2103-6-24**]  04:39 AM
                             [**2103-6-24**]  05:40 PM
                             [**2103-6-25**]  04:55 AM
                             [**2103-6-25**]  05:00 AM
   WBC
   13.4
   11.8
   12.3
   Hct
   30.1
   28.2
   27.8
   Plt
   [**Telephone/Fax (3) 3803**]
   Cr
   1.3
   1.3
   1.2
   1.2
   1.3
   1.2
   1.2
   TCO2
   32
   34
   40
   Glucose
   144
   152
   126
   124
   122
   121
   109
   Other labs: PT / PTT / INR:14.7/23.6/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now with recurrent resp
   failure [**12-30**] acute pulm edema following a second trial of extubation.
   # Resp failure: Failed extubation x 2 with tachycardia and
   hypertension. Suspect precipitating event was abrupt removal of PEEP
   upon extubation both times. Marked HTN in the setting of resp distress
   likely produced tachycardia in an attempt to generate CO against an
   elevated afterload. Acute diastolic dysfxn due to tachycardia led to
   acute pulm edema and worsening resp status. O2 requirement at baseline
   invokes chronic LV dysfxn and /or subclinical CAD. Adequate oxygenation
   and ventilation on current settings. Improved RLL opacity on CXR c/w
   pneumonitis; does have coag + staph in sputum GS from [**6-20**].
   -          Propofol was weaned off overnight due to hypotension but
   restarted at half the previous rate due to agitation.
   -          Will monitor BP as pt is more awake and aim for afterload
   reduction with captopril.
   -          Attempt extubation today with family at bedside; will
   consider rapid transition to CPAP following extubation to maintain
   positive pressure. Will check with family for confirmation of their
   wishes as pt
s HCP
   -          Continue nitroprusside drip titrated to SBP 90-100 and
   lopressor titrated to HR 60-65 (as tolerated by BP) to optimize
   hemodynamics peri-extubation
   -          Goal I/O even today as pt appears euvolemic to dry today
   clinically; also labs showing high normal Na and high BUN: Cr ratio
   indicating dehydration.
   # GPC bacteremia (1/2 bottles, likely contamination), MRSA + in sputum
   (may be ventilator associated PNA)
   -          Continue Vanco (day [**6-11**]); cefepime was d/c
d [**2103-6-22**]
   -          Central line changed [**2103-6-22**]
   -          MRSA precautions
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours
   -          Continue ASA 81, statin
   -          Titrate Lopressor to HR 65 as BP allows
   -          Continue Captopril with parameters
   # Anemia, hct stable.
   -          monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 unclear baseline, stable at 1.2-1.3. UNa 15 c/w
   pre-renal azotemia but may be element of ATN in the setting of HypoTN.
   Cr has been stable despite brisk diuresis
   -          Monitor Cr
   # COPD
 discussed with pt
s outpt pulmonologist, Dr.
   [**Last Name (STitle) 3813**]:[**Telephone/Fax (1) 3814**]. Pt has a long standing diagnosis of COPD with
   additional features of asthma. Last PFTs done in [**8-5**]; FEV1 2.1 (81%
   expected), EFV1/FVC (56% expected). Pt
s O2 requirement has been out of
   proportion to objective data of PFTs. Pt became chronically O2
   dependent after LUL lobectomy in [**8-4**], and is on 2L of oxygen at home.
   Pt also takes Advair 250 [**Hospital1 **], spiriva, and alb PRN. Pt was last seen by
   Dr. [**Last Name (STitle) 3813**] in [**12-5**], and was stable at that time respiratory wise.
   -          atrovent/albuterol MDI
   -          outpatient follow up with repeat PFTs
   # Mental status: difficult to assess. Occasionally follows commands.
   -          Versed was d/c
d, began propofol, which was stopped last
   night but restarted earlier this AM for comfort.
   -          Continue very low dose propofol to assess alertness.
   # DM
   -          RISS
   # Sedation while on vent
   -          continue propofol, but hold if becomes hypotensive.
   # FEN:
   -          on tube feeds; will hold for pending extubation.
   -          I/O goal today= even
   -          Replete lytes to keep K>4, Mg>2, ca WNL
   # Access: PIV, R A-line, LIJ
   # PPX: SubQ Hep, H2 blocker, chlorhexidine, elevate HOB
   # Code: tentatively DNR/DNI
 will re-check with family when they are
   here
   # Dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-25 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, NSTEMI, CHF, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypotensive to the 80's last night. Lasix drip stopped. Patient give
   fluid boluses. Sedation reduced. Dose of captopril reduced. Patient had
   been 2.5 Liters negative for the day at the time that hypotension
   developed. I/O's still 1.8L negative for the day yesterday.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-25**] 08:17 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-6-25**] 08:00 AM
   Famotidine (Pepcid) - [**2103-6-25**] 08:19 AM
   Other medications:
   Insulin, lipitor, heparin sc, aspirin, celexa, neurontin, lopressor,
   captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-25**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 52 (51 - 71) bpm
   BP: 92/39(49) {85/30(46) - 168/86(110)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 117.8 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 6 (3 - 10)mmHg
   Total In:
                                                                  2,909 mL
                                                                  1,814 mL
   PO:
   TF:
                                                                    642 mL
   IVF:
                                                                  2,167 mL
                                                                  1,644 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                    400 mL
   Urine:
                                                                  4,760 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,851 mL
                                                                  1,414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (182 - 539) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.44/58/91.[**Numeric Identifier 96**]/35/12
   Ve: 7.3 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally)
   Abdominal: Non-tender, Bowel sounds present, No(t) Distended, No(t)
   Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   268 K/uL
   109 mg/dL
   1.2 mg/dL
   35 mEq/L
   3.5 mEq/L
   29 mg/dL
   105 mEq/L
   148 mEq/L
   27.8 %
   12.3 K/uL
        [image002.jpg]
                             [**2103-6-22**]  10:31 PM
                             [**2103-6-23**]  04:17 AM
                             [**2103-6-23**]  01:34 PM
                             [**2103-6-23**]  08:50 PM
                             [**2103-6-24**]  04:12 AM
                             [**2103-6-24**]  04:39 AM
                             [**2103-6-24**]  05:40 PM
                             [**2103-6-25**]  04:55 AM
                             [**2103-6-25**]  05:00 AM
                             [**2103-6-25**]  09:32 AM
   WBC
   13.4
   11.8
   12.3
   Hct
   30.1
   28.2
   27.8
   Plt
   [**Telephone/Fax (3) 3803**]
   Cr
   1.3
   1.2
   1.2
   1.3
   1.2
   1.2
   TCO2
   32
   34
   40
   41
   Glucose
   152
   126
   124
   122
   121
   109
   Other labs: PT / PTT / INR:14.7/23.6/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR ([**2103-6-24**]): Improved left effusion from previous film.
   Assessment and Plan
   1) Respiratory failure
   2) CHF, acute, diastolic
   3) Hypotension
   4) Anemia
   5) Pneumonia
   6) COPD
   7) Metabolic alkalosis
   Patient has RSBI of 80 today. Mildly agitated off of propofol. BP rises
   with the agitation. Appears to have been diuresed effectively given
   CVP=6 and the hypotension that responded to fluids. Sedation may have
   been contributing to hypotension as well. Family has indicated today by
   phone that they do not want her reintubated if she fails extubation,
   and that they want to be present when the extubation is attempted.
   Mental status improved today, but still not fully alert off of
   propofol. Check for serum levels of benzos and opiates to see if her
   metabolism of these drugs, which were stopped on Saturday, is slowed
   such that they may still be having an effect.
   Continues on vanco for pneumonia. CXR without definitive infiltrate
   now.
   Metabolic alkalosis likely due to diuresis and
   hypokalemia/hypochloremia. Would give back KCl today. Hold fluids even.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2103-06-26 06:44:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with h/o lung CA s/p LUL lobectomy, COPD, home
   O2-dependent, initially intubated electively for ERCP, s/p failed
   extubation x 2 due to flash pulm edema due to  following extubation
   after ERCP, now with recurrent resp failure [**12-30**] acute pulm edema
   following a second trial of extubation
   24 Hour Events:
   Yesterday morning, SBP sensitive to propofol, dips to low 90s. HR 50s
   SB. Propofol was turned off with recovery of SBP to 110-140s.
   Tolerated lower doses of Captopril and Lopressor.
   In the afternoon, pt became increasingly more alert with family at
   bedside. Pt was following commands and nodding appropriately to
   questions. Dr. [**Last Name (STitle) 3755**] discussed with family the plan for extubation,
   and pt was extubated. Pt initially tolerated extubation well, however,
   became increasingly tachypneic, and stridor and increased work of
   breathing were noted. Racemic epi and Heliox given without effect. O2
   sat dropped to 88%, SBP in the 200s. Anesthesia was called for
   re-intubation, who noted presence of laryngeal edema that made passing
   of 6.5 tube difficult. Initial settings A/C 18/550/50/5, ABG:
   7.46/48/85/8; RR [**Month (only) 38**]
d to 14, repeat ABG 7.44/50/78/7
   Talked to pt
s outpt pulmonologist, who stated that pt has had a long
   standing COPD, although her oxygen requirement has been out of
   proportion to her disease severity. FEV1/FVC 50-60% of expected. Pt has
   required home O2 of 2L since her LUL lobectomy in [**8-4**]. COPD had been
   stable.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-25**] 08:17 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-6-25**] 08:00 AM
   Famotidine (Pepcid) - [**2103-6-25**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-26**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 78 (52 - 96) bpm
   BP: 113/41(62) {85/31(46) - 191/88(120)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.9 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 7 (5 - 14)mmHg
   Total In:
                                                                  2,507 mL
                                                                    576 mL
   PO:
   TF:
                                                                     19 mL
                                                                    161 mL
   IVF:
                                                                  2,098 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,553 mL
                                                                    370 mL
   Urine:
                                                                  1,553 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    954 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 548 (403 - 548) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.44/50/77.[**Numeric Identifier 96**]/32/7
   Ve: 8 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   10.2 g/dL
   161 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.6 mEq/L
   29 mg/dL
   106 mEq/L
   146 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2103-6-24**]  04:39 AM
                             [**2103-6-24**]  05:40 PM
                             [**2103-6-25**]  04:55 AM
                             [**2103-6-25**]  05:00 AM
                             [**2103-6-25**]  09:32 AM
                             [**2103-6-25**]  02:47 PM
                             [**2103-6-25**]  06:43 PM
                             [**2103-6-25**]  10:10 PM
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
   WBC
   12.3
   11.5
   Hct
   27.8
   30.0
   Plt
   268
   281
   Cr
   1.2
   1.2
   1.4
   TCO2
   34
   40
   41
   33
   29
   35
   35
   Glucose
   121
   109
   86
   161
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now with recurrent resp
   failure [**12-30**] acute pulm edema following a second trial of extubation.
   # Resp failure: Failed extubation x 2 with tachycardia and
   hypertension. Suspect precipitating event was abrupt removal of PEEP
   upon extubation both times. Marked HTN in the setting of resp distress
   likely produced tachycardia in an attempt to generate CO against an
   elevated afterload. Acute diastolic dysfxn due to tachycardia led to
   acute pulm edema and worsening resp status. O2 requirement at baseline
   invokes chronic LV dysfxn and /or subclinical CAD. Adequate oxygenation
   and ventilation on current settings. Improved RLL opacity on CXR c/w
   pneumonitis; does have coag + staph in sputum GS from [**6-20**].
   -          Propofol was weaned off overnight due to hypotension but
   restarted at half the previous rate due to agitation.
   -          Will monitor BP as pt is more awake and aim for afterload
   reduction with captopril.
   -          Attempt extubation today with family at bedside; will
   consider rapid transition to CPAP following extubation to maintain
   positive pressure. Will check with family for confirmation of their
   wishes as pt
s HCP
   -          Continue nitroprusside drip titrated to SBP 90-100 and
   lopressor titrated to HR 60-65 (as tolerated by BP) to optimize
   hemodynamics peri-extubation
   -          Goal I/O even today as pt appears euvolemic to dry today
   clinically; also labs showing high normal Na and high BUN: Cr ratio
   indicating dehydration.
   # GPC bacteremia (1/2 bottles, likely contamination), MRSA + in sputum
   (may be ventilator associated PNA)
   -          Continue Vanco (day [**6-11**]); cefepime was d/c
d [**2103-6-22**]
   -          Central line changed [**2103-6-22**]
   -          MRSA precautions
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours
   -          Continue ASA 81, statin
   -          Titrate Lopressor to HR 65 as BP allows
   -          Continue Captopril with parameters
   # Anemia, hct stable.
   -          monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 unclear baseline, stable at 1.2-1.3. UNa 15 c/w
   pre-renal azotemia but may be element of ATN in the setting of HypoTN.
   Cr has been stable despite brisk diuresis
   -          Monitor Cr
   # COPD
 discussed with pt
s outpt pulmonologist, Dr.
   [**Last Name (STitle) 3813**]:[**Telephone/Fax (1) 3814**]. Pt has a long standing diagnosis of COPD with
   additional features of asthma. Last PFTs done in [**8-5**]; FEV1 2.1 (81%
   expected), EFV1/FVC (56% expected). Pt
s O2 requirement has been out of
   proportion to objective data of PFTs. Pt became chronically O2
   dependent after LUL lobectomy in [**8-4**], and is on 2L of oxygen at home.
   Pt also takes Advair 250 [**Hospital1 **], spiriva, and alb PRN. Pt was last seen by
   Dr. [**Last Name (STitle) 3813**] in [**12-5**], and was stable at that time respiratory wise.
   -          atrovent/albuterol MDI
   -          outpatient follow up with repeat PFTs
   # Mental status: difficult to assess. Occasionally follows commands.
   -          Versed was d/c
d, began propofol, which was stopped last
   night but restarted earlier this AM for comfort.
   -          Continue very low dose propofol to assess alertness.
   # DM
   -          RISS
   # Sedation while on vent
   -          continue propofol, but hold if becomes hypotensive.
   # FEN:
   -          on tube feeds; will hold for pending extubation.
   -          I/O goal today= even
   -          Replete lytes to keep K>4, Mg>2, ca WNL
   # Access: PIV, R A-line, LIJ
   # PPX: SubQ Hep, H2 blocker, chlorhexidine, elevate HOB
   # Code: tentatively DNR/DNI
 will re-check with family when they are
   here
   # Dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-26 10:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, diastolic CHF, COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had worsening stridor during the evening necessitating
   reintubation with 6.5 ETT and reinstitution of mechanical ventilation.
   Afebrile.
   Positive fluid balance yesterday. BP meds held due to marginal BP.
   24 Hour Events:
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-26**] 08:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-26**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-26**] 08:00 AM
   Other medications:
   Decadron, captopril, lopressor, neurontin, citalopram, asa, heparin sc,
   lipitor, pepcid, insulin, atrovent inhaler
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-26**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 67 (55 - 96) bpm
   BP: 102/38(56) {92/37(54) - 191/88(120)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.9 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 9 (5 - 14)mmHg
   Total In:
                                                                  2,507 mL
                                                                  1,063 mL
   PO:
   TF:
                                                                     19 mL
                                                                    161 mL
   IVF:
                                                                  2,098 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  1,553 mL
                                                                    510 mL
   Urine:
                                                                  1,553 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    954 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 548 (445 - 548) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.44/50/77.[**Numeric Identifier 96**]/32/7
   Ve: 8.9 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI mid systolic murmur throughout the precordium
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   281 K/uL
   161 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.6 mEq/L
   29 mg/dL
   106 mEq/L
   146 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2103-6-24**]  04:39 AM
                             [**2103-6-24**]  05:40 PM
                             [**2103-6-25**]  04:55 AM
                             [**2103-6-25**]  05:00 AM
                             [**2103-6-25**]  09:32 AM
                             [**2103-6-25**]  02:47 PM
                             [**2103-6-25**]  06:43 PM
                             [**2103-6-25**]  10:10 PM
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
   WBC
   12.3
   11.5
   Hct
   27.8
   30.0
   Plt
   268
   281
   Cr
   1.2
   1.2
   1.4
   TCO2
   34
   40
   41
   33
   29
   35
   35
   Glucose
   121
   109
   86
   161
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   1) Respirtory failure
   2) CHF, diastolic, chronic
   3) COPD
   4) anemia
   5) Hypernatremia
   6) pneumonia
   Patient failed extubation due to vocal cord edema and stridor. ACE
   inhibitor to be stopped. Given three failed extubations, admittedly
   probably due to different mechanisms, will proceed to trach. We are
   also concerned that the stridor was significant despite the air leak
   when the cuff was taken down; thus, may be difficult to predict when
   the laryngeal edema has resolved. Surgery consulted (percutaneous trach
   cannot be done due to previous procedures in neck). Decadron continues.
   Maintain volume status even. Patient is hypernatremic; should have fee
   water replaced.
   Completing antibiotics for pneumonia. Will reassess off antibiotics.
   Hct stable. No need for transfusion today.
   Continue on inhaled bronchodilators.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments: Does not meet criteria for RSBI and daily wake up due to
   laryngeal edema
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 25**], MD

2103-06-27 07:06:00 Physician Resident Progress Note
Chief Complaint: 80 yo F with h/o lung CA s/p LUL lobectomy, home
   O2-dependent, p/w resp failure following extubation after ERCP, now
   failed extubation for the 3rd time due to laryngeal edema. Awaiting
   open trach placement
   24 Hour Events:
   Was examined by Thorasic surgery yesterday- plan is to perform open
   trach today. Tube feeds have been held since midnight.
   ACEI was d/c'd for the (small) likelihood that it may have contributed
   to laryngeal edema.
   Vanc was d/c'd yesterday as pt completed 7-day course for PNA.
   Pt was at +500cc at 5 PM, thus was given Lasix 10 mg IV to match I/O
   goal of even.
   Otherwise doing well.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-26**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-6-26**] 03:57 PM
   Famotidine (Pepcid) - [**2103-6-26**] 07:01 PM
   Furosemide (Lasix) - [**2103-6-26**] 07:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-27**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 69 (53 - 83) bpm
   BP: 133/51(81) {92/38(56) - 133/54(81)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.9 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 8 (6 - 17)mmHg
   Total In:
                                                                  1,770 mL
                                                                    198 mL
   PO:
   TF:
                                                                    430 mL
   IVF:
                                                                  1,070 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    310 mL
   Urine:
                                                                  1,350 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 33 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   9.8 g/dL
   157 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.4 mEq/L
   32 mg/dL
   104 mEq/L
   144 mEq/L
   28.9 %
   13.2 K/uL
        [image002.jpg]
                             [**2103-6-24**]  05:40 PM
                             [**2103-6-25**]  04:55 AM
                             [**2103-6-25**]  05:00 AM
                             [**2103-6-25**]  09:32 AM
                             [**2103-6-25**]  02:47 PM
                             [**2103-6-25**]  06:43 PM
                             [**2103-6-25**]  10:10 PM
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
   WBC
   12.3
   11.5
   13.2
   Hct
   27.8
   30.0
   28.9
   Plt
   [**Telephone/Fax (3) 3835**]
   Cr
   1.2
   1.2
   1.4
   1.2
   TCO2
   40
   41
   33
   29
   35
   35
   Glucose
   121
   109
   86
   161
   157
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now failed extubation for the
   3rd time due to laryngeal edema.
   # Resp failure: Failed extubation again due to laryngeal edema. Has h/o
   extubation failure x2 previously with tachycardia and hypertension.
   Suspect the previous two attempts failed due to abrupt removal of PEEP.
   This time, the tachycardia and HTN likely resulted from resp distress
   due to upper airway obstruction with laryngeal edema.
   -          Although unlikely, ACEI could be contributing to laryngeal
   edema
 will D/C
   -          Pt seen by interventional pulmonology for trach placement;
   due to scarring from previous trach, pt will need surgery to place
   trach. General surgery to evaluation pt. Will plan for trach placement
   today or tomorrow, and hold tube feeds for now.
   -          Goal I/O even today and pt appears euvolemic clinically.
   (Lasix gtt stopped yest)
   # GPC bacteremia (1/2 bottles, likely contamination), MRSA + in sputum
   on [**6-20**] (may be ventilator associated PNA). Improved RLL opacity on CXR
   c/w pneumonitis;
   -          Completed a 7-day course of Vancomycine yesterday; will
   discontinue further vanco therapy as RLL infiltrate improved
   radiologically and pt is afebrile. Will re-assess for clinical s/s of
   infxn, ie. Increased sputum production, fever, worsening leukocytosis.
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours
   -          Continue ASA 81, statin
   -          Titrate Lopressor to HR 65 as BP allows
   -          D/C captopril as it may cause laryngeal edema in this pt
   # Anemia, hct stable.
   -          monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 Cr 1.4 today, but unclear baseline. UNa 15 c/w
   pre-renal azotemia but may be element of ATN in the setting of HypoTN.
   Lasix drip stopped yesterday.
          -       Pt may have free water deficit, will replete.
   -          Monitor Cr daily
   # COPD
 has been stable per pt
s outside pulmonologist
   -          Continue atrovent/albuterol MDI
   -          outpatient follow up with repeat PFTs
   # DM
   -          RISS
   # Sedation while on vent
   -          continue propofol, but hold if becomes hypotensive.
   # FEN:
   -          on tube feeds; will hold for pending extubation.
   -          I/O goal today= even
   -          Replete lytes to keep K>4, Mg>2, ca WNL
   # Access: PIV, R A-line, LIJ
   # PPX: SubQ Hep, H2 blocker, chlorhexidine, elevate HOB
   # Code: Full code as per discussion with pt and family.
   # Dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-27 10:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, diastolic CHF, COPD, laryngeal
   edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ACE inhibitor stopped. Vancomycin course completed.
   Patient given lasix to attain even volume status for the day.
   Low grade fever. WBC up a bit.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-26**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-6-26**] 03:57 PM
   Furosemide (Lasix) - [**2103-6-26**] 07:01 PM
   Famotidine (Pepcid) - [**2103-6-27**] 08:00 AM
   Other medications:
   Decadron, lopressor, neurontin, celexa, ASA, heparin sc, insulin,
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-27**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 53 (53 - 74) bpm
   BP: 123/49(72) {98/38(56) - 135/54(81)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 102.9 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 32 (8 - 32)mmHg
   Total In:
                                                                  1,777 mL
                                                                    353 mL
   PO:
   TF:
                                                                    430 mL
   IVF:
                                                                  1,077 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    410 mL
   Urine:
                                                                  1,350 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    427 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   315 K/uL
   157 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.4 mEq/L
   32 mg/dL
   104 mEq/L
   144 mEq/L
   28.9 %
   13.2 K/uL
        [image002.jpg]
                             [**2103-6-24**]  05:40 PM
                             [**2103-6-25**]  04:55 AM
                             [**2103-6-25**]  05:00 AM
                             [**2103-6-25**]  09:32 AM
                             [**2103-6-25**]  02:47 PM
                             [**2103-6-25**]  06:43 PM
                             [**2103-6-25**]  10:10 PM
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
   WBC
   12.3
   11.5
   13.2
   Hct
   27.8
   30.0
   28.9
   Plt
   [**Telephone/Fax (3) 3835**]
   Cr
   1.2
   1.2
   1.4
   1.2
   TCO2
   40
   41
   33
   29
   35
   35
   Glucose
   121
   109
   86
   161
   157
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:78.3 %, Lymph:15.6 %,
   Mono:4.7 %, Eos:1.2 %, Fibrinogen:638 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: probable bilateral pleural effusions and/or atelectasis.
   Assessment and Plan
   1) Respiratory Failure
   2) COPD
   3) Cholangitis
   4) Diastolic CHF, chronic
   5) Laryngeal edema
   Stable overnight on the ventilator. Would recheck ABG. Reduce minute
   venitilation if pH is alkalemic. Will be easier to extubate patient
   with higher PaCO2 and compensatory renal response. Alkalemic pH will
   lead to loss of bicarb from kidney. Patient to have surgical trach
   today.
   Continues on decadron for laryngeal edema.
   CXR still shows evidence of total body volume overload. Will need
   further gentle diuresis. BUN/Creat remains elevated.
   Low grade fever. Monitor off of antibiotics. No change in tracheal
   secretions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments: Does not meet requrement for daily wake up and RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2103-06-28 07:42:00 Physician Resident Progress Note
Chief Complaint: 80 yoF with h/o Lung CA, s/p LUL lobectomy, COPD c
   home O2 dependence; failed 3 extubation attempts following elective
   intubation for ERCP. Trach placed yesterday.
   24 Hour Events:
   Trach was placed by [**Initials (NamePattern4) **] [**Name (NI) **], pt tolerated procedure well. Pt now has a
   Dobhoff tube for tube feeds.
   Fentanyl added to decrease propofol and lighten sedation.
   Pt noted to have frequent PVCs this AM with increased heart rate
   (baseline 40s-50s, now up to 80s-90s). Stat EKG acquired which shows
   nonspecific ST changes. Electrolytes WNL. Normotensive. Was ruled in
   for MI with CK of 723 and trop of 0.71 earlier this admission -
   underwent coronary cath on [**6-21**] which showed normal coronaries.
 EKG - At [**2103-6-28**] 06:30 AM
   frequent PACs and PVCs; electrolytes WNL
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-26**] 08:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2103-6-27**] 05:08 PM
   Famotidine (Pepcid) - [**2103-6-27**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-6-28**] 01:38 AM
   Fentanyl - [**2103-6-28**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-28**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 89 (46 - 89) bpm
   BP: 107/39(57) {107/39(57) - 149/60(92)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
             Total In:
                                                                    765 mL
                                                                    946 mL
   PO:
             TF:
                                                                      3 mL
                                                                    161 mL
   IVF:
                                                                    762 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    347 mL
   Urine:
                                                                    900 mL
                                                                    347 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube, Other
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 384 (384 - 384) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.45/44/82.[**Numeric Identifier 96**]/29/5
   Ve: 9.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   9.8 g/dL
   174 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   36 mg/dL
   106 mEq/L
   144 mEq/L
   27.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2103-6-25**]  09:32 AM
                             [**2103-6-25**]  02:47 PM
                             [**2103-6-25**]  06:43 PM
                             [**2103-6-25**]  10:10 PM
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
   WBC
   11.5
   13.2
   16.4
   Hct
   30.0
   28.9
   27.8
   Plt
   [**Telephone/Fax (3) 3857**]
   Cr
   1.4
   1.2
   1.3
   TCO2
   41
   33
   29
   35
   35
   32
   32
   Glucose
   86
   161
   157
   174
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:86.7 %, Band:0.0 %,
   Lymph:8.7 %, Mono:4.3 %, Eos:0.2 %, Fibrinogen:638 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Imaging: [**2103-6-21**] Coronary cath:
   1. Coronary arteries are angiographically normal.
   2. Biventricular diastolic dysfunction.
   3. Moderate pulmonary arterial hypertension.
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now failed extubation for the
   3rd time due to laryngeal edema. Trach was placed yesterday
   # Resp failure: Failed extubation again due to laryngeal edema. Has h/o
   extubation failure x2 previously with tachycardia and hypertension.
   Suspect the previous two attempts failed due to abrupt removal of PEEP.
   This time, the tachycardia and HTN likely resulted from resp distress
   due to upper airway obstruction with laryngeal edema.
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] for open trach today, pt NPO since midnight.
   - Repeat ABG this AM
   - F/u with ENT regarding recs for decadron taper for laryngeal edema
   - Goal I/O even today and pt appears euvolemic clinically.
   # MRSA + in sputum on [**6-20**] (may be ventilator associated PNA). CXR
   findings fluctuate in terms of opacities/ consolidations.
   - Vanc was d/c
d after 7 day course.
   - WBC slightly up since yesterday (may be due to steroids), and pt has
   low grade fever. However given pt does not have increased sputum
   production, and lung exam stable, will reassess for any indications of
   recurrent pna.
   - check differential on WBC to assess any PMN predominance/ left shift.
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours
   -          Continue ASA 81, statin
   -          Titrate Lopressor to HR 65 as BP allows
   # Anemia, hct stable.
   -          monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 Cr 1.2, has been stable. Pt has free water
   deficit likely due to Lasix gtt which was stopped two nights ago.
   - Hypernatremia improving, however, will reassess after surgery today
   for fluid status.
   - Strict I/Os
   - Monitor Cr daily
   # COPD
 has been stable per pt
s outside pulmonologist
   -          Continue atrovent/albuterol MDI
   -          outpatient follow up with repeat PFTs
   # DM
   -          RISS
   # Sedation while on vent
   -          continue propofol, but hold if becomes hypotensive/
   bradycardic.
   - fentanyl PRN
   # FEN:
   -          Tube feeds on hold in anticipation of trach placement.
   -          I/O goal today= even
   -          Replete lytes to keep K>4, Mg>2, ca WNL
   # Access: PIV, R A-line, LIJ
   # PPX: SubQ Hep, H2 blocker, chlorhexidine, elevate HOB
   # Code: Full code as per discussion with pt and family.
   # Dispo: ICU for now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-6-27**] 11:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-28 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cholangitis, CHF-diastolic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had surgical tracheostomy yesterday. Patient noted to have
   tachycardia and PVC's this AM after propofol reduced.
   Patient was placed on trach mask this AM. ABG after several hours on
   trach mask: 7.44/45/90
   24 Hour Events:
 EKG - At [**2103-6-27**] 11:08 AM
 OR SENT - At [**2103-6-27**] 07:41 PM
   sent to the OR for a tracheostomy
 OR RECEIVED - At [**2103-6-27**] 08:45 PM
 EKG - At [**2103-6-28**] 06:30 AM
   frequent PACs and PVCs; electrolytes WNL
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive, On ventilator
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2103-6-27**] 05:08 PM
   Fentanyl - [**2103-6-28**] 06:10 AM
   Famotidine (Pepcid) - [**2103-6-28**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-28**] 08:20 AM
   Other medications:
   decadron, neurontin, celexa, ASA, heparin sc, atorvostatin, famotidine,
   insulin, atrovent,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-28**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 87 (46 - 89) bpm
   BP: 137/53(79) {107/36(57) - 149/60(92)} mmHg
   RR: 27 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
             Total In:
                                                                    765 mL
                                                                  1,284 mL
   PO:
             TF:
                                                                      3 mL
                                                                    302 mL
   IVF:
                                                                    762 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    644 mL
   Urine:
                                                                    900 mL
                                                                    639 mL
   NG:
   5 mL
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    640 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 586 (384 - 586) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.44/45/90.[**Numeric Identifier 128**]/29/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI mid systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Bibasilar, No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.8 g/dL
   293 K/uL
   174 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   36 mg/dL
   106 mEq/L
   144 mEq/L
   27.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2103-6-25**]  06:43 PM
                             [**2103-6-25**]  10:10 PM
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
   WBC
   11.5
   13.2
   16.4
   Hct
   30.0
   28.9
   27.8
   Plt
   [**Telephone/Fax (3) 3857**]
   Cr
   1.4
   1.2
   1.3
   TCO2
   29
   35
   35
   32
   32
   31
   32
   Glucose
   161
   157
   174
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:582/8/0.27, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:86.7 %, Band:0.0 %,
   Lymph:8.7 %, Mono:4.3 %, Eos:0.2 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   1) Respiratory Failure
   2) COPD
   3) CHF - diastolic, chronic
   4) Anemia
   Patient on trach mask now. Oxygenation 97% sat; ABG is good. Patient's
   work of breathing seems a bit increased. She is awake but not fully
   communicative yet; this is similar to the last time that we stopped
   sedation on her. It took some time before she became fully alert. I
   suspect as she is able to communicate better, she may appear more
   comfortable. Few rales on exam. BUN/Creat still elevated but rales on
   exam. Check CVP.
   Continue bronchodilators. Decadron to be tapered.
   Hct down slightly. No need for transfusion now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-6-28**] 09:54 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2103-06-29 08:00:00 Physician Resident Progress Note
Chief Complaint: respiratory failure following extubation attempt s/p
   ERCP
   24 Hour Events:
   Restarted Lopressor 12.5 [**Hospital1 **] yesterday
   Fentanyl and propofol gtt stopped
   Dexamethasone being tapered off per ENT
   Lasix 40 PO BID started, but UOP did not respond well, so was given
   Lasix 60 IV x1 with good effect.
   Patient did fairly well overnight on 50% trach mask. O2 sats 96-100%,
   RR 19-30. Increased RR with agitation and coughing. Requires frequent
   suctioning, however, amount of sputum about the same as before per
   nurse.
   Pt cannot verbalize due to trach. Shakes head no to pain. Smiles when
   asked how she is doing.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2103-6-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-6-29**] 12:00 AM
   Furosemide (Lasix) - [**2103-6-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-29**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 55 (54 - 88) bpm
   BP: 139/49(76) {107/36(58) - 169/75(113)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 12 (8 - 21)mmHg
   Total In:
                                                                  2,474 mL
                                                                    967 mL
   PO:
   TF:
                                                                    799 mL
                                                                    398 mL
   IVF:
                                                                    575 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,362 mL
                                                                  2,711 mL
   Urine:
                                                                  1,357 mL
                                                                  2,710 mL
   NG:
                                                                      5 mL
   Stool:
                                                                      1 mL
   Drains:
   Balance:
                                                                  1,112 mL
                                                                 -1,744 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   PS : 5 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: 7.42/47/136/35/5
   PaO2 / FiO2: 272
   Physical Examination
   Gen: awake, resting in bed comfortably. Does get somewhat restless at
   times, but able to follow directions for slow, deep breaths.
   Heart: RRR, ?1/6 systolic murmur
   Resp: Rhonchi over bilateral lungs, decreased breath sounds in the
   bases.
   Abd: soft, NTND. +BS
   Ext: trace edema
   Labs / Radiology
   338 K/uL
   10.4 g/dL
   165 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   33 mg/dL
   103 mEq/L
   143 mEq/L
   31.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
   WBC
   11.5
   13.2
   16.4
   16.7
   Hct
   30.0
   28.9
   27.8
   31.3
   Plt
   [**Telephone/Fax (3) 3869**]38
   Cr
   1.4
   1.2
   1.3
   1.2
   TropT
   0.03
   TCO2
   35
   32
   32
   31
   32
   32
   Glucose
   161
   157
   174
   165
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:86.7 %, Band:0.0 %,
   Lymph:8.7 %, Mono:4.3 %, Eos:0.2 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now failed extubation for the
   3rd time due to laryngeal edema. Trach was successfully placed on
   [**2103-6-27**].
   # H/o resp failure:  3 failed extubation attempts; last due to
   laryngeal edema. Doing well on Trach
   - Continue on trach; Assess if laryngeal edema has improved by having
   the patient breathe through nose with trach closed.
   - Pt becomes tachypneic due to anxiety; reassure pt until she becomes
   accustomed to the sensation of breathing thru the trach.
   - Continue to hold anxiolytics/ sedatives.
   - Continue steroid taper for laryngeal edema per ENT recs
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours.
   Pt
s HR very sensitive to Lopressor, becomes brady <50 with 12.5 mg
   [**Hospital1 **].
   - Decrease Lopressor to 6.25 [**Hospital1 **]
   - Consider Captopril as outpt (since captopril may have contributed to
   laryngeal edema, will hold off for now)/ consider [**Last Name (un) 239**] instead.
   - Continue ASA 81, statin.
   # MRSA + in sputum on [**6-20**] (may be ventilator associated PNA). - WBC
   slightly up since [**2103-6-26**]
   - Leukocytosis likely due to steroids; Trend corresponds to time and
   dose of steroid being given.
   - Given pt does not have increased sputum production, and lung exam
   stable, will reassess for any indications of recurrent pna and hold off
   on further antibiotics (has already completed 7 day course of Vanco).
   # Anemia, hct stable.
   -  monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 Cr 1.2, has been stable.
   - CVP adequate, but likely somewhat volume overloaded. Pt was on Lasix
   at home. Will use one-time doses of Lasix to maintain fluid balance.
   - Strict I/Os
   - Monitor Cr daily
   # COPD
 has been stable per pt
s outside pulmonologist
   - Continue atrovent/albuterol MDI
   - outpatient follow up with repeat PFTs
   # DM
   -          RISS
   # FEN:
   - Has Dobhoff tube now for tube feeds
   - Sp and Sw consult for assessment of aspiration risk and passy-muir
   valve placement
   - Replete lytes to keep K>4, Mg>2, ca WNL
   # Access: Arterial line not working well. Will d/c as pt no longer
   requires frequent ABG checks. [**Name (NI) 3871**] (pt a difficult stick
 IV team to
   attempt PIV then pull [**Name (NI) 3871**])
   # PPX: SubQ Hep, pneumoboots, H2 blocker, elevate HOB
   # Code: Full code as per discussion with pt and family.
   # Dispo: ICU for now as she requires frequent suctions and while Sp &
   Sw consult is pending.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-6-29**] 03:56 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-29 12:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, cholangitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient give lasix yesterday. Fluid balance since midnight is 2L
   negative.
   Did well on trach mask throughout the day.
   24 Hour Events:
 EKG - At [**2103-6-28**] 11:15 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach tube
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-28**] 08:00 PM
   Furosemide (Lasix) - [**2103-6-29**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-6-29**] 08:00 AM
   Other medications:
   Neurontin, ASA, atorvostatin, insulin, atrovent, albuterol, metoprolol,
   lasix, decadron
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-29**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 60 (54 - 76) bpm
   BP: 138/61(87) {132/45(73) - 174/75(113)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 13 (7 - 21)mmHg
   Total In:
                                                                  2,474 mL
                                                                  1,120 mL
   PO:
   TF:
                                                                    799 mL
                                                                    447 mL
   IVF:
                                                                    575 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,362 mL
                                                                  3,031 mL
   Urine:
                                                                  1,357 mL
                                                                  3,030 mL
   NG:
                                                                      5 mL
   Stool:
                                                                      1 mL
   Drains:
   Balance:
                                                                  1,112 mL
                                                                 -1,911 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.42/47/136/35/5
   PaO2 / FiO2: 272
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic),
   II/VI early systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : Scattered rales, No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   338 K/uL
   165 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   33 mg/dL
   103 mEq/L
   143 mEq/L
   31.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
   WBC
   11.5
   13.2
   16.4
   16.7
   Hct
   30.0
   28.9
   27.8
   31.3
   Plt
   [**Telephone/Fax (3) 3869**]38
   Cr
   1.4
   1.2
   1.3
   1.2
   TropT
   0.03
   TCO2
   35
   32
   32
   31
   32
   32
   Glucose
   161
   157
   174
   165
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:86.7 %, Band:0.0 %,
   Lymph:8.7 %, Mono:4.3 %, Eos:0.2 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR: volume loss left hemithorax. No discrete infiltrates.
   Assessment and Plan
   1) Respiratory failure
   2) COPD
   3) cholangitis
   4) Anemia
   5) CHF - diastolic, chronic
   Doing well off the ventilator. Still being suctioned frequently for
   thin, white secretions. With increased diuresis, the secretions may
   diminish. CXR without definitive evidence of pneumoniaj; WBC stable but
   elevated. Continue bronchodilators. On steroid taper for laryngeal
   edema. Would check status of vocal cords by placing cap on trach tube.
   Speech and swallow evaluation to determine if patient can eat with
   trach in place. Consider P-M valve to allow patient to talk.
   Hct stable. No evidence of acute bleeding. No need for transfusion at
   this time.
   ICU Care
   Nutrition: tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2103-6-20**] 04:25 AM
   Multi Lumen - [**2103-6-22**] 03:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2103-06-30 06:37:00 Physician Resident Progress Note
Chief Complaint: respiratory failure following extubation attempt after
   ERCP
   24 Hour Events:
   Passed speech and swallowing test on [**6-29**]. Tolerated small amount of
   pudding with some difficulty. Passy miur trach valve to be used before
   attempting to feed po.
   Case manager  working with family regarding transferring of pt to
   rehab. Team aware..
   Staff from [**Hospital 632**] hospital screened pt for NE [**Hospital1 697**] on [**6-29**].
   On trach collar at 50% w sats >94.  LS w ronchi at times, cleared w
   coughing.  RR 20-26.  Afebrile.
   Pt given trazadone 25mg for sleep.
   Pt has been diuresing w Lasix for excess fld.  Currently ~ 1+ edema
   lower extremities, some generalized edema.
   GI:  Pt cont on TF at 30mls/hr, also started on pureed diet yesterday,
   tol w/o aspiration.  Refused pudding or anything po o/n.  colace and
   senna given.  Per report, pt had one formed stool night before last..
     Metoprolol dose decreased to 6.25mg after being held due to low HR.
   6.25 given w HR of 65.  Amlodipine daily dose also decreased.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-6-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-6-30**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 58 (53 - 69) bpm
   BP: 130/49(69) {115/40(62) - 161/66(88)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
    CVP: 7 (7 - 16)mmHg
   Total In:
                                                                  2,900 mL
                                                                    627 mL
   PO:
   TF:
                                                                  1,545 mL
                                                                    197 mL
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  3,951 mL
                                                                    880 mL
   Urine:
                                                                  3,950 mL
                                                                    880 mL
   NG:
   Stool:
                                                                      1 mL
   Drains:
   Balance:
                                                                 -1,051 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   338 K/uL
   10.4 g/dL
   165 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   33 mg/dL
   103 mEq/L
   143 mEq/L
   31.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2103-6-26**]  02:49 AM
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
   WBC
   11.5
   13.2
   16.4
   16.7
   Hct
   30.0
   28.9
   27.8
   31.3
   Plt
   [**Telephone/Fax (3) 3869**]38
   Cr
   1.4
   1.2
   1.3
   1.2
   TropT
   0.03
   TCO2
   35
   32
   32
   31
   32
   32
   Glucose
   161
   157
   174
   165
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:86.7 %, Band:0.0 %,
   Lymph:8.7 %, Mono:4.3 %, Eos:0.2 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now failed extubation for the
   3rd time due to laryngeal edema. Trach was successfully placed on
   [**2103-6-27**].
   # H/o resp failure:  3 failed extubation attempts; last due to
   laryngeal edema. Doing well on Trach
   - Continue on trach; Assess if laryngeal edema has improved by having
   the patient breathe through nose with trach closed.
   - Pt becomes tachypneic due to anxiety; reassure pt until she becomes
   accustomed to the sensation of breathing thru the trach.
   - Continue to hold anxiolytics/ sedatives.
   - Continue steroid taper for laryngeal edema per ENT recs
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours.
   Pt
s HR very sensitive to Lopressor, becomes brady <50 with 12.5 mg
   [**Hospital1 **].
   - Decrease Lopressor to 6.25 [**Hospital1 **]
   - Consider Captopril as outpt (since captopril may have contributed to
   laryngeal edema, will hold off for now)/ consider [**Last Name (un) 239**] instead.
   - Continue ASA 81, statin.
   # MRSA + in sputum on [**6-20**] (may be ventilator associated PNA). - WBC
   slightly up since [**2103-6-26**]
   - Leukocytosis likely due to steroids; Trend corresponds to time and
   dose of steroid being given.
   - Given pt does not have increased sputum production, and lung exam
   stable, will reassess for any indications of recurrent pna and hold off
   on further antibiotics (has already completed 7 day course of Vanco).
   # Anemia, hct stable.
   -  monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 Cr 1.2, has been stable.
   - CVP adequate, but likely somewhat volume overloaded. Pt was on Lasix
   at home. Will use one-time doses of Lasix to maintain fluid balance.
   - Strict I/Os
   - Monitor Cr daily
   # COPD
 has been stable per pt
s outside pulmonologist
   - Continue atrovent/albuterol MDI
   - outpatient follow up with repeat PFTs
   # DM
   -          RISS
   # FEN:
   - Has Dobhoff tube now for tube feeds
   - Sp and Sw consult for assessment of aspiration risk and passy-muir
   valve placement
   - Replete lytes to keep K>4, Mg>2, ca WNL
   # Access: Arterial line not working well. Will d/c as pt no longer
   requires frequent ABG checks. [**Name (NI) 3871**] (pt a difficult stick
 IV team to
   attempt PIV then pull [**Name (NI) 3871**])
   # PPX: SubQ Hep, pneumoboots, H2 blocker, elevate HOB
   # Code: Full code as per discussion with pt and family.
   # Dispo: ICU for now as she requires frequent suctions and while Sp &
   Sw consult is pending.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-6-29**] 12:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2103-6-29**] 04:30 PM
   20 Gauge - [**2103-6-29**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-06-30 11:13:00 Physician Attending Progress Note
Chief Complaint: resp failure; three failed extubation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75F admitted for elective ERCP for recurrent abdominal pain, intibated
   electively, now s/p trach after 3 failed extubations, last one due to
   laryngeal edema:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2103-6-29**] 02:00 PM
 MULTI LUMEN - STOP [**2103-6-29**] 06:30 PM
   #lines removed yesterday
   #seen by speech and swallow; ok with clear liquids
   #still anxiety after trach
   #diuresed well with
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-6-30**] 08:00 AM
   Famotidine (Pepcid) - [**2103-6-30**] 08:26 AM
   Other medications:
   furosemide, dexa 6 mg iv daily, lopressor, ropinaril, atorvastatin,
   asa, celexa, gabapentin, sqh, famotidine q12, riss, atrovent q6,
   amlodipine, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Psychiatric / Sleep: No(t) Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-6-30**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 52 (52 - 69) bpm
   BP: 109/45(59) {109/40(59) - 161/66(88)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
   CVP: 7 (7 - 12)mmHg
   Total In:
                                                                  2,900 mL
                                                                    835 mL
   PO:
   TF:
                                                                  1,545 mL
                                                                    325 mL
   IVF:
                                                                    210 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,951 mL
                                                                  1,400 mL
   Urine:
                                                                  3,950 mL
                                                                  1,400 mL
   NG:
   Stool:
                                                                      1 mL
   Drains:
   Balance:
                                                                 -1,051 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
 heart sounds soft. No
   gallop or murmur.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorally and laterally : , Abdominal: Soft, Non-tender, Distended
   Extremities: Trace bilaterally
   Skin:  warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   422 K/uL
   117 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.9 mEq/L
   32 mg/dL
   100 mEq/L
   142 mEq/L
   35.4 %
   20.7 K/uL
        [image002.jpg]
                             [**2103-6-26**]  04:47 AM
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
                             [**2103-6-30**]  05:00 AM
   WBC
   11.5
   13.2
   16.4
   16.7
   20.7
   Hct
   30.0
   28.9
   27.8
   31.3
   35.4
   Plt
   [**Telephone/Fax (3) 3869**]38
   422
   Cr
   1.4
   1.2
   1.3
   1.2
   1.1
   TropT
   0.03
   TCO2
   32
   32
   31
   32
   32
   Glucose
   161
   157
   174
   165
   117
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:86.7 %, Band:0.0 %,
   Lymph:8.7 %, Mono:4.3 %, Eos:0.2 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.7 mg/dL
   Imaging: cxr: trach in place; less opacities at the bases after
   diuresis
   Assessment and Plan
   1. resp failure
   2. leukocytosis -
   3. delirium / anxiety
   4. NSTEMI
   Patient looks great sitting in a chair, speaking easily with the P-M
   valve. Edema improved. BUN/Creat ratio elevated. I think we are getting
   near her dry weight. Her baseline diuretic dose has been reintstated.
   Would only allow 500 cc negative fluid balance today. Steroids being
   tapered for vocal cord edema.
   Given leukocytosis, will send c.diff, add on differential, and monotr
   for signs of infection as well as WBC trend after discontinuation of
   steroids.
   Will continue to encourage PO intake while continuing tube feeds.
   Encourage bed to chair; will need rehab after discharge, has been
   screened.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-6-29**] 12:01 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2103-6-29**] 04:30 PM
   20 Gauge - [**2103-6-29**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2103-07-01 08:07:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, s/p 3 failed extubations
   24 Hour Events:
   Pt doing much better this a.m. Currently weaned to 40% Trach mask.
   Overnight, pt fell/slid out of bed. [**Month (only) 60**] have been trying to pass BM. No
   head injury/ bruises.
   Tolerated Passey Muir valve yesterday x 4hrs. Tolerating soft solids in
   addition to tube feeds.
   Dexamethasone was d/c
ed yesterday.
   1.4L out over 24 hours, currently hemodynamically stable. One episode
   of low BP to 90s, HR in upper 40s, now resolved without intervention.
   Pink urine noted [**Name8 (MD) **] RN, with some clots in foley tubing since fall.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-6-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-6-30**] 11:49 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2103-7-1**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 67 (46 - 67) bpm
   BP: 123/49(65) {90/41(53) - 154/80(91)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
                  Total In:
                                                                  2,130 mL
                                                                    244 mL
   PO:
                                                                    250 mL
                  TF:
                                                                    720 mL
                                                                    244 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                    430 mL
   Urine:
                                                                  3,530 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Gen: awake, sitting up in bed with trach mask on, NAD
   HEENT: mmm, NCAT, EOMI grossly, PERRL
   CV: RRR, 2/6 systolic murmur loudest at LUSB, S1 S2 present, no r/g
   LUNGS: diffuse coarse breath sounds bilaterally
   ABD: soft, NTND, bs+, bruise in LLQ (site of Hep SQ injections)
   EXT: trace edema LE bilaterally, no c/c, pedal pulses present
   Labs / Radiology
   364 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.6 mEq/L
   29 mg/dL
   96 mEq/L
   138 mEq/L
   35.1 %
   17.2 K/uL
        [image002.jpg]
   CXR [**6-30**]: Persistent CHF. Unchanged left lower lung opacity and
   left-sided pleural effusion. Support lines in place.
   CXR [**7-1**]: pending final read. Appears unchanged from previous.
   No new micro
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
                             [**2103-6-30**]  05:00 AM
                             [**2103-7-1**]  05:20 AM
   WBC
   13.2
   16.4
   16.7
   20.7
   17.2
   Hct
   28.9
   27.8
   31.3
   35.4
   35.1
   Plt
   [**Telephone/Fax (3) 3896**]22
   364
   Cr
   1.2
   1.3
   1.2
   1.1
   1.1
   TropT
   0.03
   TCO2
   32
   32
   31
   32
   32
   Glucose
   157
   174
   165
   117
   115
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:72.6 %, Band:0.0 %,
   Lymph:18.2 %, Mono:6.1 %, Eos:2.7 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now failed extubation for the
   3rd time due to laryngeal edema. Trach was successfully placed on
   [**2103-6-27**].
   # H/o resp failure:  3 failed extubation attempts; last due to
   laryngeal edema. Doing well on Trach. Satting well on FiO2 40%. Still
   with frequent cough and yellow sputum.
   - Continue on trach; Assess if laryngeal edema has improved by having
   the patient breathe through nose with trach closed.
   - Pt becomes tachypneic due to anxiety; reassure pt until she becomes
   accustomed to the sensation of breathing thru the trach.
   - Last day of steroid for laryngeal edema [**6-30**].
   - Consider weaning FIO2 down further, transitioning off of trach mask
   as tolerated.
   - Continue chest PT. Will schedule Albuterol/Atrovent nebs.
   - Will give Mucomyst q8 to help with secretions.
   # MRSA + in sputum on [**6-20**] (may be ventilator associated PNA) and
   worsening leukocytosis.
   - Leukocytosis likely due to steroids; Trend corresponds to timing of
   steroids being given.  Trended down today.
   - Given pt does not have increased sputum production, no fevers and
   lung exam/ CXR improved, will reassess for any indications of recurrent
   pna and hold off on further antibiotics (has already completed 7 day
   course of Vanco).
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours.
   # Hypertension: Pt
s HR very sensitive to Lopressor, becomes brady <50
   with 12.5 mg [**Hospital1 **]. Was decreased to 6.25 [**Hospital1 **] [**6-29**]. Episode of hypotension
   to 90s yesterday.
   - Continue Lopressor to 6.25 [**Hospital1 **]
   - Consider Captopril as outpt (since captopril may have contributed to
   laryngeal edema, will hold off for now)/ consider [**Last Name (un) 239**] instead.
   - Will d/c Amlodipine, as pt currently intermittently hypotensive.
   - Will also decrease Lasix to pt
s home dose of Lasix 40mg PO bid.
   Previously increased because UOP did not respond adequately, but will
   re-try given intermittent hypotension.
   - Continue ASA 81, statin.
   # Anemia, hct stable.
   -  monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 Cr has been stable (1.1-1.2)
   - Will resume home dose of Lasix 40mg PO BID. Will monitor I/Os for
   goal= - 0.5 L today.
   - Strict I/Os
   - Monitor Cr daily
   # COPD
 has been stable per pt
s outside pulmonologist
   - Continue atrovent/albuterol MDI
   - outpatient follow up with repeat PFTs
   # DM
   -          RISS
   # FEN:
   - Has Dobhoff tube now for tube feeds. Will cycle it so pt can eat
   orally using the passy-muir valve.
   - Nutrition consult to adjust tube feeds as pt is eating now. Consider
   holding tube feeds during the day to encourage PO intake.
   - Replete lytes to keep K>4, Mg>2, ca WNL
   # Mental status; able to follow commands off and on.
   - Appears to be improving. Continue to monitor. Will check with family
   also.
   # Access: Arterial line and LIJ d/c
d [**6-29**]. Has 2 PIVs now.
   # PPX: SubQ Hep, pneumoboots, H2 blocker, elevate HOB
   # Code: Full code as per discussion with pt and family.
   # Dispo: ICU for now as she requires frequent suctions and supervision
   with PO intake. PT to eval today or tomorrow. Pt approved for [**Hospital 1225**]
   rehab, but prefers [**Hospital3 **] rehab (pending approval.)  Will likely d/c
   to rehab early this week.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-6-30**] 07:58 PM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2103-6-29**] 04:30 PM
   20 Gauge - [**2103-6-29**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-07-01 11:07:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, three failure extubations
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F admitted for elective ercp, s/p failure extubation x3, last time
   due to laryngeal edema
   24 Hour Events:
   *patient became lodged between handrail and mattress, no injury, no
   change in mental status
   *tolerated Passy-Muir valve, talking to staff
   *sat in chair most of the day
   *wbc down
   *net out 1.5 liters
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-7-1**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2103-7-1**] 08:19 AM
   Other medications:
   lasix 60 po bid, metopr, [**Last Name (LF) 3899**], [**First Name3 (LF) **], celexa, gabapentin, sqh,
   famotidine, riss, atrovent, amlodipine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO, Tube feeds
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, delirium resolved
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-7-1**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 62 (46 - 67) bpm
   BP: 128/58(74) {90/41(53) - 154/80(91)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,130 mL
                                                                    451 mL
   PO:
                                                                    250 mL
             TF:
                                                                    720 mL
                                                                    321 mL
   IVF:
                                                                    100 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                    710 mL
   Urine:
                                                                  3,530 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube, trach
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), [**2-1**] sm lusb
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear :   No wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: voice
   Oriented (to): , Movement: purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   364 K/uL
   115 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.6 mEq/L
   29 mg/dL
   96 mEq/L
   138 mEq/L
   35.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2103-6-27**]  04:20 AM
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
                             [**2103-6-30**]  05:00 AM
                             [**2103-7-1**]  05:20 AM
   WBC
   13.2
   16.4
   16.7
   20.7
   17.2
   Hct
   28.9
   27.8
   31.3
   35.4
   35.1
   Plt
   [**Telephone/Fax (3) 3896**]22
   364
   Cr
   1.2
   1.3
   1.2
   1.1
   1.1
   TropT
   0.03
   TCO2
   32
   32
   31
   32
   32
   Glucose
   157
   174
   165
   117
   115
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:72.6 %, Band:0.0 %,
   Lymph:18.2 %, Mono:6.1 %, Eos:2.7 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Imaging: cxr: only left
   Assessment and Plan
   1. resp failure
   2. leukocytosis
   3. copd
   4. chf, nl ef
   80F with chronic abdominal pain, admitted for elective ercp, intubated
   electively, s/p three failed extubations, now trached, doing well with
   passy-muir valve. The last failed extubation was due to laryngeal
   edema. She has completed a course of dexamethasone, with presumed
   near-complete resolution of laryngeal edema since the patient is able
   to talk. WBC is coming down without antibitiotics.
   Her heart failure with normal EF was the cause of her prior two
   re-intubations. She is now euvolemic, and has good blood pressure and
   HR control on the current regimen.
   Patient is still getting tube feed through an NG tube. She is
   tolerating POs, and nutrition is working with the patient to take me
   POs. Expect continued improvement; no need for PEG.
   Patient has been evaluate by rehab. Likely discharge to rehab tomorrow.
   ICU Care
   Nutrition: Oral
   Nutren 2.0 (Full) - [**2103-6-30**] 07:58 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2103-6-29**] 04:30 PM
   20 Gauge - [**2103-6-29**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   [**First Name11 (Name Pattern1) **] [**Last Name (NamePattern4) 1426**], MD

2103-07-02 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Decreased Lasix to 40 mg PO BID (home dose). Pt at approx even fluid
   balance.
   Amlodipine discontinued due to low-normal blood pressure.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-7-1**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2103-7-2**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-7-2**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 57 (50 - 85) bpm
   BP: 97/42(56) {85/35(48) - 136/91(95)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
                  Total In:
                                                                  1,650 mL
                                                                    617 mL
   PO:
                                                                    300 mL
                  TF:
                                                                    720 mL
                                                                    217 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    415 mL
   Urine:
                                                                  1,800 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   12.1 g/dL
   119 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.9 mEq/L
   30 mg/dL
   98 mEq/L
   140 mEq/L
   36.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
                             [**2103-6-30**]  05:00 AM
                             [**2103-7-1**]  05:20 AM
                             [**2103-7-2**]  04:05 AM
   WBC
   16.4
   16.7
   20.7
   17.2
   18.2
   Hct
   27.8
   31.3
   35.4
   35.1
   36.5
   Plt
   293
   338
   422
   364
   357
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.03
   TCO2
   32
   32
   31
   32
   32
   Glucose
   174
   165
   117
   115
   119
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:72.6 %, Band:0.0 %,
   Lymph:18.2 %, Mono:6.1 %, Eos:2.7 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   80 yo F with h/o lung CA s/p LUL lobectomy, home O2-dependent, p/w resp
   failure following extubation after ERCP, now failed extubation for the
   3rd time due to laryngeal edema. Trach was successfully placed on
   [**2103-6-27**].
   # H/o resp failure:  3 failed extubation attempts; last due to
   laryngeal edema. Doing well on Trach. Satting well on FiO2 40%. Still
   with frequent cough and yellow sputum.
   - Continue on trach; Assess if laryngeal edema has improved by having
   the patient breathe through nose with trach closed.
   - Pt becomes tachypneic due to anxiety; reassure pt until she becomes
   accustomed to the sensation of breathing thru the trach.
   - Last day of steroid for laryngeal edema [**6-30**].
   - Consider weaning FIO2 down further, transitioning off of trach mask
   as tolerated.
   - Continue chest PT. Will schedule Albuterol/Atrovent nebs.
   - Will give Mucomyst q8 to help with secretions.
   # MRSA + in sputum on [**6-20**] (may be ventilator associated PNA) and
   worsening leukocytosis.
   - Leukocytosis likely due to steroids; Trend corresponds to timing of
   steroids being given.  Trended down today.
   - Given pt does not have increased sputum production, no fevers and
   lung exam/ CXR improved, will reassess for any indications of recurrent
   pna and hold off on further antibiotics (has already completed 7 day
   course of Vanco).
   # Demand ischemia
 no proximal coronary stenoses but biventricular
   diastolic dysfxn on cath; may have distal, small vessel dz; no active
   ischemia, trop peaked on [**6-19**]. heparin gtt was d/c
d after 48 hours.
   # Hypertension: Pt
s HR very sensitive to Lopressor, becomes brady <50
   with 12.5 mg [**Hospital1 **]. Was decreased to 6.25 [**Hospital1 **] [**6-29**]. Episode of hypotension
   to 90s yesterday.
   - Continue Lopressor to 6.25 [**Hospital1 **]
   - Consider Captopril as outpt (since captopril may have contributed to
   laryngeal edema, will hold off for now)/ consider [**Last Name (un) 239**] instead.
   - Will d/c Amlodipine, as pt currently intermittently hypotensive.
   - Will also decrease Lasix to pt
s home dose of Lasix 40mg PO bid.
   Previously increased because UOP did not respond adequately, but will
   re-try given intermittent hypotension.
   - Continue ASA 81, statin.
   # Anemia, hct stable.
   -  monitor hct daily, transfuse if Hct< 21%
   # Acute renal failure
 Cr has been stable (1.1-1.2)
   - Will resume home dose of Lasix 40mg PO BID. Will monitor I/Os for
   goal= - 0.5 L today.
   - Strict I/Os
   - Monitor Cr daily
   # COPD
 has been stable per pt
s outside pulmonologist
   - Continue atrovent/albuterol MDI
   - outpatient follow up with repeat PFTs
   # DM
   -          RISS
   # FEN:
   - Has Dobhoff tube now for tube feeds. Will cycle it so pt can eat
   orally using the passy-muir valve.
   - Nutrition consult to adjust tube feeds as pt is eating now. Consider
   holding tube feeds during the day to encourage PO intake.
   - Replete lytes to keep K>4, Mg>2, ca WNL
   # Mental status; able to follow commands off and on.
   - Appears to be improving. Continue to monitor. Will check with family
   also.
   # Access: Arterial line and LIJ d/c
d [**6-29**]. Has 2 PIVs now.
   # PPX: SubQ Hep, pneumoboots, H2 blocker, elevate HOB
   # Code: Full code as per discussion with pt and family.
   # Dispo: ICU for now as she requires frequent suctions and supervision
   with PO intake. PT to eval today or tomorrow. Pt approved for [**Hospital 1225**]
   rehab, but prefers [**Hospital3 **] rehab (pending approval.)  Will likely d/c
   to rehab early this week.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2103-7-2**] 05:10 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2103-6-29**] 04:30 PM
   20 Gauge - [**2103-6-29**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-07-02 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Lasix now back at her usual home dose. Fluid balance even yesterday.
   Continues to do well off of ventilator and on trach mask.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-7-2**] 08:00 AM
   Other medications:
   lopressor, lasix, ASA, celexa, neurontin, insulin, colace, albuterol,
   atrovent, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-7-2**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 64 (50 - 85) bpm
   BP: 119/49(65) {85/19(46) - 136/100(104)} mmHg
   RR: 20 (15 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 109.1 kg
   Height: 65 Inch
                  Total In:
                                                                  1,650 mL
                                                                    880 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
                                                                    720 mL
                                                                    240 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    955 mL
   Urine:
                                                                  1,800 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   357 K/uL
   119 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.9 mEq/L
   30 mg/dL
   98 mEq/L
   140 mEq/L
   36.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2103-6-27**]  10:43 AM
                             [**2103-6-28**]  04:58 AM
                             [**2103-6-28**]  05:09 AM
                             [**2103-6-28**]  09:33 AM
                             [**2103-6-28**]  11:21 AM
                             [**2103-6-28**]  04:05 PM
                             [**2103-6-29**]  04:34 AM
                             [**2103-6-30**]  05:00 AM
                             [**2103-7-1**]  05:20 AM
                             [**2103-7-2**]  04:05 AM
   WBC
   16.4
   16.7
   20.7
   17.2
   18.2
   Hct
   27.8
   31.3
   35.4
   35.1
   36.5
   Plt
   293
   338
   422
   364
   357
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.03
   TCO2
   32
   32
   31
   32
   32
   Glucose
   174
   165
   117
   115
   119
   Other labs: PT / PTT / INR:14.8/23.9/1.3, CK / CKMB /
   Troponin-T:80/3/0.03, ALT / AST:31/56, Alk Phos / T Bili:58/0.5,
   Amylase / Lipase:53/22, Differential-Neuts:72.6 %, Band:0.0 %,
   Lymph:18.2 %, Mono:6.1 %, Eos:2.7 %, Fibrinogen:638 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:3.2 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR: pleural thickening on left. No change from yesterday.
   Assessment and Plan
   1) Respiratory failure
   2) COPD
   3) cholangitis
   Doing well on trach mask. Eating normally. Speaks well with Passy-Muir
   valve. Continue bronchodilators.
   Afebrile, although WBC remains elevated. Monitor off antibiotics.
   Patient to go to rehab facility today.
   ICU Care
   Nutrition: tube feeds and oral feeding
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2103-6-29**] 04:30 PM
   20 Gauge - [**2103-6-29**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 25 minutes